2197-11-10 05:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - CVL placed in right IJ, A-line placed on left radial artery.
   - Dopamine gtt started
   - Pt. had episodes of bradycardia, EKG obtained with possible heart
   block, and cards called - follow up with EP if episode occurs again.
   - Sodium trended down slowly.
   - Follow up mixed venous o2: 73.
   - Fluids: +11.0L
 MULTI LUMEN - START [**2197-11-9**] 05:00 PM
 ARTERIAL LINE - START [**2197-11-9**] 05:10 PM
 EKG - At [**2197-11-9**] 10:00 PM
 EKG - At [**2197-11-10**] 04:50 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2197-11-10**] 12:00 AM
   Infusions:
   Dopamine - 12 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2197-11-9**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2197-11-10**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-11-10**] 05:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.9
C (96.6
   HR: 74 (38 - 78) bpm
   BP: 107/50(71) {70/43(57) - 157/74(105)} mmHg
   RR: 16 (15 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 49.5 kg (admission): 49.5 kg
   Height: 60 Inch
    CVP: 10 (1 - 11)mmHg
   Mixed Venous sat of 73
   Total In:
                                                                  8,093 mL
                                                                  4,113 mL
   PO:
                                  TF:
   IVF:
                                                                  3,473 mL
                                                                  3,933 mL
   Blood products:
   Total out:
                                                                  1,130 mL
                                                                  1,070 mL
   Urine:
                                                                  1,130 mL
                                                                  1,070 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,963 mL
                                                                  3,043 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 24 cmH2O
   Plateau: 17 cmH2O
   SpO2: 100%
   ABG: 7.30/37/197/19/-7
   Ve: 6.5 L/min
   PaO2 / FiO2: 492
   Physical Examination
   General Appearance: Not Well nourished, Thin with temporal wasting.
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: PMI Normal,nl S1 and S2, with no MRG.
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), CTA-B except for [**Known lastname **]
   bases at which she has a few crackles.
   Abdominal: Soft, Non-tender, Non-distended, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Cool
   Neurologic: Responds to: Noxious stimuli, Movement: Non -purposeful,
   Sedated
   Labs / Radiology
   179 K/uL
   12.7 g/dL
   127 mg/dL
   1.2 mg/dL
   19 mEq/L
   6.6 mEq/L
   42 mg/dL
   136 mEq/L
   158 mEq/L
   39.9 %
   10.3 K/uL
        [image002.jpg]
                             [**2197-11-9**]  03:00 PM
                             [**2197-11-9**]  06:03 PM
                             [**2197-11-9**]  10:07 PM
                             [**2197-11-10**]  03:08 AM
                             [**2197-11-10**]  03:50 AM
   WBC
   10.4
   10.3
   Hct
   42.4
   39.9
   Plt
   180
   179
   Cr
   2.1
   1.7
   1.2
   TropT
   0.03
   TCO2
   24
   19
   Glucose
   138
   142
   127
   Other labs: PT / PTT / INR:17.4/39.3/1.6, CK / CKMB /
   Troponin-T:381/5/0.03, ALT / AST:31/47, Alk Phos / T Bili:44/1.6,
   Differential-Neuts:85.9 %, Lymph:9.7 %, Mono:4.1 %, Eos:0.3 %, Lactic
   Acid:0.9 mmol/L, Albumin:2.8 g/dL, LDH:256 IU/L, Ca++:6.0 mg/dL,
   Mg++:2.0 mg/dL, PO4:1.4 mg/dL
   Assessment and Plan
   A/P: 89 yo with PMH of alzheimer's dementia, hypernatremia, UTI
   presents with AMS, sepsis physiology, UTI, and impressive
   hypernatremia.
   .
   # Sepsis: febrile, hypotensive, hypoxic.  Source is likely urine given
   pyuria.  She received vanc/zosyn in the ED.  Also a nursing home
   patient, so resistant organisms are possible.  UCx pending.  BCx's
   pending.  No obvious infiltrates by CXR.
   - vanc/zosyn
   - f/u cultures, tailor antibiotics accordingly
   - Goal to wean pressors.  She may live with low SBP and could be
   permitted to have slightly low pressures if her end organ function is
   adequate (i.e. her urine output is sufficient).
   - fluid with CVP goal [**8-15**]
   - surveillance cultures
   .
   # Respiratory failure: hypoxia and hypercarbia.  No medical history of
   [**Known lastname **] disease, though albuterol and ipratropium is on her med list
   baseline CO2 elevated, likely kyphoscoliosis.  Family denies any
   smoking history.  Other etiology could be aspiration given AMS,
   hypoventilation 2/2 AMS, ARDS from sepsis.  CXR not currently
   consistent with any of these.
   - Ventilation with VAP precautions, wean to pressure support, SBT and
   RSBI, with the goal of extubation as soon as possible.
   - Follow ABG, and clinical setting.
   .
   # Hypernatremia: likely from extreme dehydration.  Concern for rapid
   normalization and resulting cerebral edema.  Central diabetes insipidus
   also a possibility.  Free water deficit 4.7L.
   - LR volume repletion
   - 300 cc q3 free water through OG
   - Follow Na with q 4hr chemistries.
   - Urine lytes
   - would like to avoid overcorrecting or correcting too quickly, though
   volume status in setting of septic picture takes precedence.
   - consider head imaging
   .
   # AMS: likely [**2-4**] toxic/metabolic, though other etiologies could
   include stroke, and underlying dementia.
   - Will speak to family in order to outline pt
s baseline mental status.
   - Consider imaging if no improvement toward baseline.
   .
   # Bradycardia:
   - Spoke with cardiology who recommended that we consult EP for further
   evaluation of possible high degree heart block.
   .
   # ARF: likely [**2-4**] to volume depletion
 rapidly correcting in 12 hours.
   - Renal dose meds
   - Volume replete
   - Urine lytes
   .
   # Paroxysmal afib:
   - confirm not an anticoagulation candidate
   .
   # Alzheimer's: cont home meds
   .
   # PPx: H2 blocker, sc heparin, bowel regimen
   .
   # Code: full code
   .
   # Dispo: ICU level care
   ICU Care
   Lines:
   18 Gauge - [**2197-11-9**] 02:00 PM
   Multi Lumen - [**2197-11-9**] 05:00 PM
   Arterial Line - [**2197-11-9**] 05:10 PM

2197-11-11 05:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2197-11-10**] 11:00 AM
   - Unable to wean pressors until 5 am
   - Vancomycin started given hypotension & coag+ Staph aureaus in sputum
   - Free water boluses increased to 300 Q3H
   - Failed SBT
   - Bradycardic most of the night
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2197-11-11**] 12:39 AM
   Vancomycin - [**2197-11-11**] 01:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2197-11-11**] 12:39 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-11-11**] 05:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98.1
   HR: 55 (31 - 82) bpm
   BP: 103/42(61) {70/30(40) - 134/58(83)} mmHg
   RR: 19 (16 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 60 kg (admission): 49.5 kg
   Height: 60 Inch
    CVP: 9 (6 - 10)mmHg
   Total In:
                                                                  8,597 mL
                                                                    930 mL
   PO:
   TF:
   IVF:
                                                                  6,547 mL
                                                                    330 mL
   Blood products:
   Total out:
                                                                  3,410 mL
                                                                    540 mL
   Urine:
                                                                  3,410 mL
                                                                    540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,187 mL
                                                                    390 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 400 (289 - 400) mL
   PS : 12 cmH2O
   RR (Set): 16
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 108
   PIP: 17 cmH2O
   Plateau: 17 cmH2O
   SpO2: 100%
   ABG: 7.29/41/114/21/-6
   Ve: 7.8 L/min
   PaO2 / FiO2: 285
   Physical Examination
   General Appearance: Not Well nourished, Thin with temporal wasting.
   More alert today than yesterday.
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: PMI Normal,nl S1 and S2, with no MRG.
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), CTA-B except for [**Known lastname **]
   bases at which she has a few crackles.
   Abdominal: Soft, Non-tender, Non-distended, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Cool
   Neurologic: Responds to: Noxious stimuli, Movement: Non -purposeful,
   Sedated
   Labs / Radiology
   133 K/uL
   10.8 g/dL
   79 mg/dL
   0.8 mg/dL
   19 mEq/L
   4.0 mEq/L
   21 mg/dL
   120 mEq/L
   146 mEq/L
   33.7 %
   8.1 K/uL
        [image002.jpg]
                             [**2197-11-10**]  08:08 AM
                             [**2197-11-10**]  10:10 AM
                             [**2197-11-10**]  11:09 AM
                             [**2197-11-10**]  01:42 PM
                             [**2197-11-10**]  01:51 PM
                             [**2197-11-10**]  04:17 PM
                             [**2197-11-10**]  04:25 PM
                             [**2197-11-10**]  07:44 PM
                             [**2197-11-10**]  07:55 PM
                             [**2197-11-10**]  10:34 PM
   Cr
   1.0
   1.0
   TropT
   0.03
   0.04
   TCO2
   21
   21
   22
   20
   22
   21
   Glucose
   103
   88
   79
   Other labs: Ca++:7.0 mg/dL, Mg++:2.6 mg/dL, PO4:2.1 mg/dL; ABG: 7.30 /
   43 / 137 / 22
   Urine > 100,000 GNRs and >100,000 GP bacteria, speciation pending;
   Sputum
 coag+ Staph. Aureus
   Assessment and Plan
   A/P: 89 yo with PMH of alzheimer's dementia, hypernatremia, UTI
   presents with AMS, sepsis physiology, UTI, and impressive
   hypernatremia.
   .
   # Sepsis: Initially with fever, hypotension, hypoxia.  Source is likely
   urine given pyuria, though may have something in her [**Known lastname **] as well.  She
   received vanc/zosyn in the ED.  Also a nursing home patient, so
   resistant organisms are possible.  UCx,  BCx's, an sputum Cx pending.
   Patient appears to be improving clinically this morning.
   - cont. vanc/zosyn for now.
   - f/u cultures, tailor antibiotics accordingly
   - Goal to wean pressors.  She may live with low SBP and could be
   permitted to have slightly low pressures if her end organ function is
   adequate (i.e. her urine output is sufficient).
   - fluid with CVP goal [**8-15**]
   - surveillance cultures
   .
   # Respiratory failure: hypoxia and hypercarbia.  No medical history of
   [**Known lastname **] disease, though albuterol and ipratropium is on her med list
   baseline CO2 elevated, likely kyphoscoliosis.  Family denies any
   smoking history.  Other etiology could be aspiration given AMS,
   hypoventilation 2/2 AMS, ARDS from sepsis.  CXR not currently
   consistent with any of these.
   - Ventilation with VAP precautions, wean to pressure support, SBT and
   RSBI, with the goal of extubation as soon as possible.
   - Follow ABG, and clinical setting.
   .
   # Hypernatremia: likely from extreme dehydration.  Concern for rapid
   normalization and resulting cerebral edema.  Central diabetes insipidus
   also a possibility.  Free water deficit 4.7L.
   - LR volume repletion
   - 300 cc q3 free water through OG
   - Follow Na with q 4hr chemistries.
   - Urine lytes
   - would like to avoid overcorrecting or correcting too quickly, though
   volume status in setting of septic picture takes precedence.
   - consider head imaging
   .
   # AMS: likely [**2-4**] toxic/metabolic, though other etiologies could
   include stroke, and underlying dementia.
   - Will speak to family in order to outline pt
s baseline mental status.
   - Consider imaging if no improvement toward baseline.
   .
   # Bradycardia:
   - Spoke with cardiology who recommended that we consult EP for further
   evaluation of possible high degree heart block.
   .
   # ARF: likely [**2-4**] to volume depletion
 rapidly correcting in 12 hours.
   - Renal dose meds
   - Volume replete
   - Urine lytes
   .
   # Paroxysmal afib:
   - confirm not an anticoagulation candidate
   .
   # Alzheimer's: cont home meds
   .
   # PPx: H2 blocker, sc heparin, bowel regimen
   .
   # Code: full code
   .
   # Dispo: ICU level care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2197-11-9**] 02:00 PM
   Multi Lumen - [**2197-11-9**] 05:00 PM
   Arterial Line - [**2197-11-9**] 05:10 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2197-11-11 10:21:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2197-11-10**] 11:00 AM
   - Unable to wean pressors until 5 am
   - Vancomycin started given hypotension & coag+ Staph aureaus in sputum
   - Free water boluses increased to 300 Q3H
   - Failed SBT
   - Bradycardic most of the night
   - OG removed and NGT placed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2197-11-11**] 12:39 AM
   Vancomycin - [**2197-11-11**] 01:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2197-11-11**] 12:39 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-11-11**] 05:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98.1
   HR: 55 (31 - 82) bpm
   BP: 103/42(61) {70/30(40) - 134/58(83)} mmHg
   RR: 19 (16 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 60 kg (admission): 49.5 kg
   Height: 60 Inch
    CVP: 9 (6 - 10)mmHg
   Total In:
                                                                  8,597 mL
                                                                    930 mL
   PO:
   TF:
   IVF:
                                                                  6,547 mL
                                                                    330 mL
   Blood products:
   Total out:
                                                                  3,410 mL
                                                                    540 mL
   Urine:
                                                                  3,410 mL
                                                                    540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,187 mL
                                                                    390 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 400 (289 - 400) mL
   PS : 12 cmH2O
   RR (Set): 16
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 108
   PIP: 17 cmH2O
   Plateau: 17 cmH2O
   SpO2: 100%
   ABG: 7.29/41/114/21/-6
   Ve: 7.8 L/min
   PaO2 / FiO2: 285
   Physical Examination
   General Appearance: Not Well nourished, Thin with temporal wasting.
   More alert today than yesterday.
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: PMI Normal,nl S1 and S2, with no MRG.
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), CTA-B except for [**Known lastname **]
   bases at which she has a few crackles.
   Abdominal: Soft, Non-tender, Non-distended, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Cool
   Neurologic: Responds to: Noxious stimuli, Movement: Non -purposeful,
   Sedated
   Labs / Radiology
   133 K/uL
   10.8 g/dL
   79 mg/dL
   0.8 mg/dL
   19 mEq/L
   4.0 mEq/L
   21 mg/dL
   120 mEq/L
   146 mEq/L
   33.7 %
   8.1 K/uL
        [image002.jpg]
                             [**2197-11-10**]  08:08 AM
                             [**2197-11-10**]  10:10 AM
                             [**2197-11-10**]  11:09 AM
                             [**2197-11-10**]  01:42 PM
                             [**2197-11-10**]  01:51 PM
                             [**2197-11-10**]  04:17 PM
                             [**2197-11-10**]  04:25 PM
                             [**2197-11-10**]  07:44 PM
                             [**2197-11-10**]  07:55 PM
                             [**2197-11-10**]  10:34 PM
   Cr
   1.0
   1.0
   TropT
   0.03
   0.04
   TCO2
   21
   21
   22
   20
   22
   21
   Glucose
   103
   88
   79
   Other labs: Ca++:7.0 mg/dL, Mg++:2.6 mg/dL, PO4:2.1 mg/dL; ABG: 7.30 /
   43 / 137 / 22
   Urine > 100,000 GNRs and >100,000 GP bacteria, speciation pending;
   Sputum
 coag+ Staph. Aureus
   Assessment and Plan
   A/P: 89 yo with PMH of alzheimer's dementia, hypernatremia, UTI
   presents with AMS, sepsis physiology, UTI, and impressive
   hypernatremia.
   .
   # Sepsis: Initially with fever, hypotension, hypoxia.  Source is likely
   urine given pyuria, though may have something in her [**Known lastname **] as well.  She
   received vanc/zosyn in the ED.  Also a nursing home patient, so
   resistant organisms are possible.  UCx,  BCx's, an sputum Cx pending.
   Patient appears to be improving clinically and is no longer requiring
   pressors.
   - cont. vanc/zosyn for now
   - f/u cultures, tailor antibiotics accordingly
   - fluid with CVP goal [**8-15**]
   - surveillance cultures
   .
   # Respiratory failure: hypoxia and hypercarbia.  No medical history of
   [**Known lastname **] disease, though albuterol and ipratropium are on her med list.
   Baseline CO2 elevated, likely kyphoscoliosis.  Family denies any
   smoking history.  Other etiology could be aspiration given AMS,
   hypoventilation 2/2 AMS, ARDS from sepsis.  CXR shows more RLL opacity
   this morning, though could in part be related to fluid resuscitation.
   - Ventilation with VAP precautions, wean to pressure support, SBT and
   RSBI, with the goal of extubation as soon as possible, possibly today.
   - Follow ABG, and clinical setting.
   .
   # Hypernatremia: likely from extreme dehydration.  Now resolved.
   - Reduce free water through NGT to avoid over correcting
   - consider head imaging
   .
   # AMS: likely [**2-4**] toxic/metabolic, though other etiologies could
   include stroke, and underlying dementia.
   - Will speak to family in order to outline pt
s baseline mental status.
   - Consider imaging if no improvement toward baseline.
   .
   # Bradycardia:
   - Spoke with cardiology who recommended that we consult EP for further
   evaluation of possible high degree heart block.
   .
   # ARF: Resolved, likely [**2-4**] to volume depletion
 rapidly correcting.
   - Renal dose meds
   - Volume replete
   - Urine lytes
   .
   # Paroxysmal afib:
   - confirm not an anticoagulation candidate
   .
   # Alzheimer's: cont home meds
   .
   # PPx: H2 blocker, sc heparin (recheck coags as this morning
s value is
   likely incorrect patient), bowel regimen
   .
   # Code: full code.  Discussed with patient
s son [**Name (NI) 6287**] who wants
everything done
 including reintubation if patient fails extubation.
   .
   # Dispo: ICU level care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2197-11-9**] 02:00 PM
   Multi Lumen - [**2197-11-9**] 05:00 PM
   Arterial Line - [**2197-11-9**] 05:10 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 89 yo F dementia, hypernatremia, UTIs, prior
   pneumonia, PAF p/w lethargy, fever, desats. In ED, intubated for
   progressive hypercarbia with transient hypotension post intubation.
   Eval notable for profound hypernatremia (170) responding to free water.
   Exam notable for Tm 98.6 BP 70-134/50-60  HR 78 RR 16-31 with sat 100%
   on PS 12/5
 [**5-8**] 40% --> 7.30/43/137. CVP 8-10 frail F, NAD on vent.
   Awake, JVD flat. CTA, RRR, Soft NT +BS, no edema. Moves all 4 ext.
   Labs notable for WBC 8.1 K, HCT 33.7 (40), Na 146 (158), K 4.0 (5.0),
   Cr 0.8 (1.2), CXR now with increased streaky opacity at R mid
   zone
infiltrate vs atelectais
   Sputum CP staph, [**Last Name (un) **] pending, urine > 100K GNR, GP bacteria
   89 yo F dementia, PAF, ARF, hypernatremia and respiratory failure in
   the setting of likely UTI c/b septic shock, now with CXR showing
   probable R pna, ? aspiration (blossomed after hydration). Agree with
   plan to continue empirically antibx with vanco and zosyn, while
   awaiting final cx results/sensies. Now off pressors.  MS improving,
   though baseline status is limited per family.  NA improving with free
   water.  Will decrease amt of free water boluses (per deficit) to avoid
   over correction. Tolerating PS with AM RSBI of 70.  Montior for a few
   hrs on PS and reassess ABG to assess for extubation.  ARF
 hemodynamic
   in nature and has improved with rehydration. PTT this am elevated to
   103 (30
s on admit).  Unclear if spurious lab value
will recheck.
   Continue home dementia meds. Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 45 min
   Addendum
   As pt olerated several hrs on PS 5/0 with stable ABGs stable with
   evidence of metabolic acidosis and no development of Co2 retention
   7.30/40 and ,minimal secretions and hemodynamic stability was extubated
   today.  Did well for nearly 1 hr then developed resp distress and
   frothy secretions c/w flash edema.  Started PAP and gave lasix 10.
   Oxygenation improved but repeat ABG showed worsening acidosis and co2
   retention prompting reintubation.  Family updated. Developed
   hypotension post-intubation which is responding to IVF boluses.
   Additional 20 minutes critcal care time spent with pt
   ------ Protected Section Addendum Entered By:[**Name (NI) 744**] [**Last Name (NamePattern1) 1165**], MD
   on:[**2197-11-11**] 07:21 PM ------

2197-11-12 05:05:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Pt was extubated, then re-intubated for worsening acidosis and
   hypercarbia.  After re-intubation, became hypertensive and was given 1
   inch morphine paste.  Then became hypotensive and was given LR fluid
   boluses for SBP in the 80s.
   PTT was elevated for unclear reasons.  Rechecked and was still high.
   Pt given 5mg PO vit K qday X 3 days.
   Overnight, BPs were in the 80s systolic with good urine output, got
   multiple fluid boluses of LR with response, got ECG (?Afib) and CE
   checked, HCT checked at 33
   Free water boluses were decreased from 300mg q3 to 150mg q6 hours as
   sodium corrected.
 EKG - At [**2197-11-11**] 10:45 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2197-11-11**] 01:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2197-11-11**] 04:00 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2197-11-11**] 12:25 PM
   Heparin Sodium (Prophylaxis) - [**2197-11-11**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-11-12**] 05:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 46 (46 - 76) bpm
   BP: 81/32(45) {72/29(44) - 183/66(112)} mmHg
   RR: 14 (14 - 32) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 60 kg (admission): 49.5 kg
   Height: 60 Inch
   CVP: 4 (3 - 14)mmHg
   Mixed Venous O2% Sat: 72 - 72
                                Total In:
                                                                  6,077 mL
                                                                    652 mL
   PO:
                                TF:
                                                                     91 mL
                                                                    101 mL
   IVF:
                                                                  4,366 mL
                                                                    551 mL
   Blood products:
   Total out:
                                                                  2,390 mL
                                                                    215 mL
   Urine:
                                                                  2,390 mL
                                                                    215 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,687 mL
                                                                    437 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 489 (489 - 489) mL
   PS : 8 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 70
   PIP: 24 cmH2O
   Plateau: 19 cmH2O
   Compliance: 30.8 cmH2O/mL
   SpO2: 100%
   ABG: 7.33/39/120/20/-4
   Ve: 8 L/min
   PaO2 / FiO2: 300
   Physical Examination
   General Appearance: Not Well nourished, Thin with temporal wasting.
   More alert today than yesterday.
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: PMI Normal,nl S1 and S2, with no MRG.
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), CTA-B except for [**Known lastname **]
   bases at which she has a few crackles.
   Abdominal: Soft, Non-tender, Non-distended, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Cool
   Neurologic: Responds to: Noxious stimuli, Movement: Non -purposeful,
   Sedated
   Labs / Radiology
   135 K/uL
   10.5 g/dL
   76 mg/dL
   0.8 mg/dL
   20 mEq/L
   3.7 mEq/L
   15 mg/dL
   113 mEq/L
   141 mEq/L
   32.1 %
   7.2 K/uL
        [image002.jpg]
   Ca2+ of 7.5, but corrects with Albumin of 2.2 to 8.9.
   Mg2+ of 2.0
   Phos of 1.9.
                             [**2197-11-11**]  05:26 AM
                             [**2197-11-11**]  09:22 AM
                             [**2197-11-11**]  12:11 PM
                             [**2197-11-11**]  01:16 PM
                             [**2197-11-11**]  02:58 PM
                             [**2197-11-11**]  05:08 PM
                             [**2197-11-11**]  09:40 PM
                             [**2197-11-11**]  11:11 PM
                             [**2197-11-12**]  02:31 AM
                             [**2197-11-12**]  02:50 AM
   WBC
   7.2
   Hct
   33
   32.1
   Plt
   135
   Cr
   0.8
   0.8
   TropT
   0.03
   0.03
   0.03
   TCO2
   22
   20
   21
   21
   21
   22
   21
   Glucose
   73
   76
   Other labs: PT / PTT / INR:15.0/100.6/1.3, CK / CKMB /
   Troponin-T:209/7/0.03, ALT / AST:31/47, Alk Phos / T Bili:44/1.6,
   Differential-Neuts:85.9 %, Lymph:9.7 %, Mono:4.1 %, Eos:0.3 %, Lactic
   Acid:1.2 mmol/L, Albumin:2.2 g/dL, LDH:256 IU/L, Ca++:7.5 mg/dL,
   Mg++:2.0 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   A/P: 89 yo with PMH of alzheimer's dementia, hypernatremia, UTI
   presents with AMS, sepsis physiology, UTI, and impressive
   hypernatremia.
   .
   # Sepsis: Initially with fever, hypotension, hypoxia.  Source is likely
   urine given pyuria, though may have something in her [**Known lastname **] as well.  She
   initially received vanc/zosyn in the ED.  Also a nursing home patient,
   so resistant organisms are possible.  UCx grew out pan sensitive
   proteus mirabilis.  BCx's, an sputum Cx pending.  Patient appears to be
   improving clinically and is no longer requiring pressors.
   - Cont. vanc/unasyn for now to cover proteus and Gm+ Cocci in her
   sputum that haven
t yet speciated.
   - Draw a Vanc level today and redose her based upon recovering renal
   function tomorrow.
   - F/u cultures, tailor antibiotics accordingly
   - CVP goal [**8-15**], MAP > 60, and Mixed venous sat > 70%.
   .
   # Respiratory failure: hypoxia and hypercarbia.  No medical history of
   [**Known lastname **] disease, though albuterol and ipratropium are on her med list.
   Baseline CO2 elevated, likely kyphoscoliosis.  Family denies any
   smoking history.  Other etiology could be aspiration given AMS,
   hypoventilation 2/2 AMS, ARDS from sepsis.  CXR shows more RLL opacity
   this morning, though could in part be related to fluid resuscitation.
   - Ventilation with VAP precautions, wean to pressure support, SBT and
   RSBI, with the goal of extubation as soon as possible, possibly today.
   - Follow ABG, and clinical setting.
   .
   # Hypernatremia: likely from extreme dehydration.  Now resolved.
   - Reduce free water through NGT to avoid over correcting
   - consider head imaging
   .
   # ?Coagulopathy:  PTT is elevated on two subsequent draws without
   obvious medical cause.
   - Placed on standing Vit K
   - Will follow and trend coags.
   # AMS: likely [**2-4**] toxic/metabolic, though other etiologies could
   include stroke, and underlying dementia.
   - Will speak to family in order to outline pt
s baseline mental status
   once patient is extubated once again.  During the interval time between
   extubation and re-intubation, her mental status appeared to the family
   to be near baseline.
   - Consider imaging if no improvement toward baseline.
   .
   # Bradycardia:
   - Spoke with cardiology who recommended that we consult EP for further
   evaluation of possible high degree heart block.  Initially they
   commented that her rhythm could be a variation of normal or tied to her
   underlying illness and recommended treating her sepsis and
   re-evaluating once she has recovered or becomes unstable.
   - Due to her episodes of hypotension overnight, will touch base with EP
   once again today.
   .
   # ARF: Likely [**2-4**] to volume depletion
 now resolved.
   - [**Month (only) 60**] need to re-dose medications based upon recovering renal
   function.  Will go over medications.
   - Volume replete as necessary.
   .
   # Paroxysmal afib:
   - Confirm not an anticoagulation candidate
   .
   # Alzheimer's: cont home meds
   .
   # PPx: H2 blocker, sc heparin, bowel regimen
   .
   # Code: full code.  Discussed with patient
s son [**Name (NI) 6287**] who wants
everything done
 including reintubation if patient fails extubation.
   .
   # Dispo: ICU level care
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2197-11-11**] 03:00 PM 20 mL/hour
   Lines:
   18 Gauge - [**2197-11-9**] 02:00 PM
   Multi Lumen - [**2197-11-9**] 05:00 PM
   Arterial Line - [**2197-11-9**] 05:10 PM

2197-11-13 05:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Tailored antibiotics to Unasyn and Vanc for the Proteus in urine and
   GPC in the sputum
   - EP commented on bradycardia and various rhythms: Use atropine or
   dopamine if needed, consider ECHO, Pacer not currently indicated.
   Coumadin indication once sepsis resolves if risk/benefit ratio =
   appropriate.  Persistently hypotensive and bradycardic, may consider
   pacer.
   - Vanc lvl = 11; redosed to q24hrs given recovered renal function.
   - DIC labs are normal: LDH 127, FDP 0-10, Fib 397.
   - Transiently on Dopamine for hypotension, but weaned quickly and
   subsequently fluid responsive.
   - Following cultures
 BLOOD CULTURED - At [**2197-11-12**] 11:12 AM
 SPUTUM CULTURE - At [**2197-11-12**] 12:12 PM
 STOOL CULTURE - At [**2197-11-12**] 12:12 PM
 INVASIVE VENTILATION - STOP [**2197-11-12**] 06:05 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2197-11-11**] 01:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2197-11-12**] 09:00 AM
   Metronidazole - [**2197-11-12**] 05:30 PM
   Ampicillin/Sulbactam (Unasyn) - [**2197-11-13**] 12:11 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2197-11-12**] 04:00 PM
   Heparin Sodium (Prophylaxis) - [**2197-11-13**] 12:11 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-11-13**] 05:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 60 (56 - 73) bpm
   BP: 102/48(67) {71/34(43) - 124/51(71)} mmHg
   RR: 16 (12 - 47) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 60 kg (admission): 49.5 kg
   Height: 60 Inch
    CVP: 11 (5 - 15)mmHg
   Total In:
                                                                  4,656 mL
                                                                    430 mL
   PO:
   TF:
                                                                    689 mL
                                                                    228 mL
   IVF:
                                                                  3,177 mL
                                                                    201 mL
   Blood products:
   Total out:
                                                                  1,140 mL
                                                                    160 mL
   Urine:
                                                                  1,135 mL
                                                                    160 mL
   NG:
                                                                      5 mL
   Stool:
   Drains:
   Balance:
                                                                  3,516 mL
                                                                    270 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 413 (248 - 413) mL
   PS : 12 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 138
   PIP: 26 cmH2O
   Plateau: 21 cmH2O
   SpO2: 100%
   ABG: 7.34/46/114
   Ve: 5.9 L/min
   PaO2 / FiO2: 305
   Physical Examination
   General Appearance: Not Well nourished, Thin with temporal wasting.
   More alert today than yesterday.
   Eyes / Conjunctiva: PERRL.
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube.
   Still appears dry.
   Cardiovascular: PMI Normal,nl S1 and S2, with no MRG.
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), CTA-B except for [**Known lastname **]
   bases at which she has a few crackles. And coarse breath sounds
   Abdominal: Soft, Non-tender, Non-distended, Bowel sounds present
   Musculoskeletal: Muscle wasting
   Skin:  Cool
   Neurologic: Responds to: Noxious stimuli, Movement: Non -purposeful,
   Sedated
   Labs / Radiology
   147   K/uL
   9.8 g/dL
   133 mg/dL
   0.8 mg/dL
   25 mEq/L
   4 mEq/L
   13 mg/dL
   115 mEq/L
   142 mEq/L
   29.5 %
   6.9 K/uL
        [image002.jpg]
                             [**2197-11-11**]  01:16 PM
                             [**2197-11-11**]  02:58 PM
                             [**2197-11-11**]  05:08 PM
                             [**2197-11-11**]  09:40 PM
                             [**2197-11-11**]  11:11 PM
                             [**2197-11-12**]  02:31 AM
                             [**2197-11-12**]  02:50 AM
                             [**2197-11-12**]  11:24 AM
                             [**2197-11-12**]  09:41 PM
                             [**2197-11-12**]  09:51 PM
   WBC
   7.2
   Hct
   33
   32.1
   31.7
   Plt
   135
   Cr
   0.8
   0.8
   TropT
   0.03
   0.03
   0.03
   TCO2
   21
   21
   22
   21
   24
   22
   Glucose
   73
   76
   Other labs: PT / PTT / INR:12.7/42.5/1.1, CK / CKMB /
   Troponin-T:209/7/0.03, ALT / AST:31/47, Alk Phos / T Bili:44/1.6,
   Differential-Neuts:85.9 %, Lymph:9.7 %, Mono:4.1 %, Eos:0.3 %,
   Fibrinogen:397 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.2 g/dL, LDH:227
   IU/L, Ca++:7.4 mg/dL, Mg++:1.9 mg/dL, PO4:2.1 mg/dL.  Vanco [**2197-11-12**]-
   110
   Assessment and Plan
   A/P: 89 yo with PMH of alzheimer's dementia, hypernatremia, UTI
   presents with AMS, sepsis physiology, UTI, and impressive hypernatremia
   (170_
   .
   # Sepsis: Initially with fever, hypotension, hypoxia.  Source is likely
   urine given pyuria, though may have something in her [**Known lastname **] as well given
   GPCs in sputum.  She initially received vanc/zosyn in the ED.  Also a
   nursing home patient, so resistant organisms are possible.  UCx grew
   out pan sensitive proteus mirabilis.  BCx's, an sputum Cx pending.
   Patient appears to be improving clinically and is no longer requiring
   pressors.
   - Cont. vanc/unasyn for now to cover proteus and Gm+ Cocci in her
   sputum that haven
t yet speciated.
   - Draw a Vanc level today and redose her based upon recovering renal
   function tomorrow.
   - F/u cultures, tailor antibiotics accordingly
   - CVP goal [**8-15**], MAP > 60, and Mixed venous sat > 70%.
   .
   # Respiratory failure: hypoxia and hypercarbia.  No medical history of
   [**Known lastname **] disease, though albuterol and ipratropium are on her med list.
   Baseline CO2 elevated, likely kyphoscoliosis.  Family denies any
   smoking history.  Other etiology could be aspiration given AMS,
   hypoventilation 2/2 AMS, ARDS from sepsis.  CXR shows more RLL opacity
   this morning, though could in part be related to fluid resuscitation.
   - Ventilation with VAP precautions, wean to pressure support, SBT and
   RSBI, aim to extubate today.  Patient is triggering on own, and mental
   status will never be excellent, given advanced dementia
   - Follow ABG, and clinical setting.
   .
   # Hypernatremia: likely from extreme dehydration.  Now resolved.
   - Reduce free water through NGT to avoid over correcting
   - consider head imaging at any signs of increased intracranial pressure
   .
   # ?Coagulopathy:  PTT was elevated x2, but has responded well to
   vitamin K
   - Placed on standing Vit K
   - Will follow and trend coags.
   # AMS: likely [**2-4**] toxic/metabolic, though other etiologies could
   include stroke, and underlying dementia.
   - Will speak to family in order to outline pt
s baseline mental status
   once patient is extubated once again.  During the interval time between
   extubation and re-intubation, her mental status appeared to the family
   to be near baseline.
   - Consider imaging if no improvement toward baseline.
   .
   # Bradycardia:
   - Initially EP commented that her rhythm could be a variation of normal
   or tied to her underlying illness and recommended treating her sepsis
   and re-evaluating once she has recovered or becomes unstable.
   -If patient drops HR <40, EKG
   .-Tx hypotension fluids, then with dopamine or atropine
   # ARF: Likely [**2-4**] to volume depletion
 now resolved.
   - [**Month (only) 60**] need to re-dose medications based upon recovering renal
   function.  Will go over medications.
   - Volume replete as necessary.
   .
   # Paroxysmal afib:
   - Confirm not an anticoagulation candidate
   .
   # Alzheimer's: cont home meds
   .
   # PPx: H2 blocker, sc heparin, bowel regimen
   .
   # Code: full code.  Discussed with patient
s son [**Name (NI) 6287**] who wants
everything done
 including reintubation if patient fails extubation.
   .
   # Dispo: ICU level care
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2197-11-11**] 03:00 PM 45 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2197-11-9**] 02:00 PM
   Multi Lumen - [**2197-11-9**] 05:00 PM
   Arterial Line - [**2197-11-9**] 05:10 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2197-11-13 13:08:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   Altered Mental Status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient transiently on dopamine in past 24 hours following
   administration of sedating medications.
   24 Hour Events:
 BLOOD CULTURED - At [**2197-11-12**] 11:12 AM
 SPUTUM CULTURE - At [**2197-11-12**] 12:12 PM
 STOOL CULTURE - At [**2197-11-12**] 12:12 PM
 INVASIVE VENTILATION - STOP [**2197-11-12**] 06:05 PM
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2197-11-11**] 01:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2197-11-12**] 09:00 AM
   Metronidazole - [**2197-11-13**] 04:08 AM
   Ampicillin/Sulbactam (Unasyn) - [**2197-11-13**] 05:57 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2197-11-12**] 04:00 PM
   Heparin Sodium (Prophylaxis) - [**2197-11-13**] 12:11 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: Bradycardia
   Flowsheet Data as of  [**2197-11-13**] 12:56 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 55 (50 - 73) bpm
   BP: 79/43(56) {64/34(43) - 124/63(77)} mmHg
   RR: 18 (12 - 47) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 60 kg (admission): 49.5 kg
   Height: 60 Inch
   CVP: 16 (5 - 16)mmHg
   Total In:
                                                                  4,661 mL
                                                                  1,652 mL
   PO:
   TF:
                                                                    694 mL
                                                                    595 mL
   IVF:
                                                                  3,177 mL
                                                                  1,057 mL
   Blood products:
   Total out:
                                                                  1,140 mL
                                                                    460 mL
   Urine:
                                                                  1,135 mL
                                                                    460 mL
   NG:
                                                                      5 mL
   Stool:
   Drains:
   Balance:
                                                                  3,521 mL
                                                                  1,192 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 411 (259 - 413) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 138
   PIP: 29 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: 7.34/46/114/25/-1
   Ve: 6.6 L/min
   PaO2 / FiO2: 285
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.8 g/dL
   147 K/uL
   133 mg/dL
   0.8 mg/dL
   25 mEq/L
   4.0 mEq/L
   13 mg/dL
   115 mEq/L
   142 mEq/L
   29.5 %
   6.9 K/uL
        [image002.jpg]
                             [**2197-11-11**]  05:08 PM
                             [**2197-11-11**]  09:40 PM
                             [**2197-11-11**]  11:11 PM
                             [**2197-11-12**]  02:31 AM
                             [**2197-11-12**]  02:50 AM
                             [**2197-11-12**]  11:24 AM
                             [**2197-11-12**]  09:41 PM
                             [**2197-11-12**]  09:51 PM
                            [**2197-11-13**]  04:43 AM
                            [**2197-11-13**]  05:07 AM
   WBC
   7.2
   6.9
   Hct
   33
   32.1
   31.7
   29.5
   Plt
   135
   147
   Cr
   0.8
   0.8
   0.8
   TropT
   0.03
   0.03
   0.03
   TCO2
   22
   21
   24
   22
   26
   Glucose
   73
   76
   133
   Other labs: PT / PTT / INR:12.7/42.5/1.1, CK / CKMB /
   Troponin-T:209/7/0.03, ALT / AST:31/47, Alk Phos / T Bili:44/1.6,
   Differential-Neuts:85.9 %, Lymph:9.7 %, Mono:4.1 %, Eos:0.3 %,
   Fibrinogen:397 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.2 g/dL, LDH:227
   IU/L, Ca++:7.4 mg/dL, Mg++:1.9 mg/dL, PO4:2.1 mg/dL
   Fluid analysis / Other labs: 7.34/46/114
   Microbiology: Cultures all pending
   Assessment and Plan
   89 yo female admit with sepsis and concerning severity of alteration of
   mental status now with metabolic derangements being addressed
   individually has moved towards baseline mental status.  Of note she has
   had intermittent bradycardia over past 24-48 hours with EP evaluation
   completed.
   1)Sepsis-
   Vanco/Unasyn/Flagyl
   -Likely Proteus from urinary source as possible initial insult
   -Continue with Vanco/Unasyn/Flagyl
   -IVF as needed
   2)Respiratory Failure-
   -In CMV mode
   -Reasonable PIP/Pplat noted
   -Mental status may be a barrier to extubation but will have to
   re-evaluate as PSV wean is effected.
   -Hope to move to RSBI and extubation trial in am.
   3)Altered Mental Status-
   -Improved Na+ levels noted
   4)Bradycardia-
   Atropine/Dopamine as needed
   No severe Bradycardia noted this am.
 HYPOKALEMIA (LOW POTASSIUM, HYPOPOTASSEMIA)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 HYPERNATREMIA (HIGH SODIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2197-11-13**] 06:11 AM 45 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2197-11-9**] 02:00 PM
   Multi Lumen - [**2197-11-9**] 05:00 PM
   Arterial Line - [**2197-11-9**] 05:10 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: Daughter in room and updated on slow progress
   in the setting of significant insult.
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2197-11-14 05:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Sputum cx grew MRSA, vanco approved
   -Vanco trough sent
   -weaned to PSV, tolerated, rested overnight on 15/5 with plan to
   perform breathing trial in AM, extubate if good ABG, good mechanics
   -Began diuresing, as pt is +21L since admission
   -in PM, UOP was 25-75cc/hour
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2197-11-12**] 09:00 AM
   Ampicillin/Sulbactam (Unasyn) - [**2197-11-13**] 05:57 AM
   Vancomycin - [**2197-11-13**] 08:00 AM
   Ampicillin - [**2197-11-14**] 12:00 AM
   Metronidazole - [**2197-11-14**] 02:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2197-11-14**] 12:00 AM
   Fentanyl - [**2197-11-14**] 01:30 AM
   Furosemide (Lasix) - [**2197-11-14**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-11-14**] 05:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.2
C (97.2
   HR: 58 (50 - 71) bpm
   BP: 115/56(78) {61/37(56) - 153/104(125)} mmHg
   RR: 21 (14 - 24) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 60 kg (admission): 49.5 kg
   Height: 60 Inch
    CVP: 6 (5 - 18)mmHg
   Total In:
                                                                  2,992 mL
                                                                    628 mL
   PO:
   TF:
                                                                  1,097 mL
                                                                    227 mL
   IVF:
                                                                  1,745 mL
                                                                    251 mL
   Blood products:
   Total out:
                                                                  1,545 mL
                                                                  1,085 mL
   Urine:
                                                                  1,545 mL
                                                                  1,085 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,447 mL
                                                                   -457 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 496 (260 - 496) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 123
   PIP: 33 cmH2O
   Plateau: 26 cmH2O
   SpO2: 100%
   ABG: 7.31/51/183/25/-1
   Ve: 6.8 L/min
   PaO2 / FiO2: 457
   Physical Examination
   General Appearance: Not Well nourished, Thin with temporal wasting.
   More alert today than yesterday.
   Eyes / Conjunctiva: PERRL.
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube.
   Still appears dry.
   Cardiovascular: PMI Normal,nl S1 and S2, with no MRG.
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), CTA-B except for [**Known lastname **]
   bases at which she has a few crackles. And coarse breath sounds
   Abdominal: Soft, Non-tender, Non-distended, Bowel sounds present
   Musculoskeletal: Muscle wasting
   Skin:  Cool
   Neurologic: Responds to: Noxious stimuli, Movement: Non -purposeful,
   Sedated
   Labs / Radiology
   153 K/uL
   10.1 g/dL
   132 mg/dL
   0.8 mg/dL
   25 mEq/L
   4.1 mEq/L
   11 mg/dL
   112 mEq/L
   142 mEq/L
   30.5 %
   7.1 K/uL
        [image002.jpg]
                             [**2197-11-12**]  02:50 AM
                             [**2197-11-12**]  11:24 AM
                             [**2197-11-12**]  09:41 PM
                             [**2197-11-12**]  09:51 PM
                            [**2197-11-13**]  04:43 AM
                            [**2197-11-13**]  05:07 AM
                            [**2197-11-13**]  03:21 PM
                            [**2197-11-13**]  07:05 PM
                            [**2197-11-14**]  02:15 AM
                            [**2197-11-14**]  03:20 AM
   WBC
   6.9
   7.1
   Hct
   31.7
   29.5
   30.5
   Plt
   147
   153
   Cr
   0.8
   0.8
   TCO2
   21
   24
   22
   26
   26
   26
   27
   Glucose
   133
   132
   Other labs: PT / PTT / INR:13.1/47.6/1.1, CK / CKMB /
   Troponin-T:209/7/0.03, ALT / AST:31/47, Alk Phos / T Bili:44/1.6,
   Differential-Neuts:85.9 %, Lymph:9.7 %, Mono:4.1 %, Eos:0.3 %,
   Fibrinogen:397 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.2 g/dL, LDH:227
   IU/L, Ca++:7.3 mg/dL, Mg++:1.9 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   A/P: 89 yo with PMH of alzheimer's dementia, hypernatremia, UTI
   presents with AMS, sepsis physiology, UTI, and impressive hypernatremia
   (170_
   .
   # Sepsis: Initially with fever, hypotension, hypoxia.  Source is likely
   urine given pyuria, though may have something in her [**Known lastname **] as well given
   GPCs in sputum.  She initially received vanc/zosyn in the ED.  Also a
   nursing home patient, so resistant organisms are possible.  UCx grew
   out pan sensitive proteus mirabilis.  BCx's, an sputum Cx pending.
   Patient appears to be improving clinically and is no longer requiring
   pressors.
   - Cont. vanc/unasyn for now to cover proteus and Gm+ Cocci in her
   sputum that haven
t yet speciated.
   - Draw a Vanc level today and redose her based upon recovering renal
   function tomorrow.
   - F/u cultures, tailor antibiotics accordingly
   - CVP goal [**8-15**], MAP > 60, and Mixed venous sat > 70%.
   .
   # Respiratory failure: hypoxia and hypercarbia.  No medical history of
   [**Known lastname **] disease, though albuterol and ipratropium are on her med list.
   Baseline CO2 elevated, likely kyphoscoliosis.  Family denies any
   smoking history.  Other etiology could be aspiration given AMS,
   hypoventilation 2/2 AMS, ARDS from sepsis.  CXR shows more RLL opacity
   this morning, though could in part be related to fluid resuscitation.
   - Ventilation with VAP precautions, wean to pressure support, SBT and
   RSBI, aim to extubate today.  Patient is triggering on own, and mental
   status will never be excellent, given advanced dementia
   - Follow ABG, and clinical setting.
   .
   # Hypernatremia: likely from extreme dehydration.  Now resolved.
   - Reduce free water through NGT to avoid over correcting
   - consider head imaging at any signs of increased intracranial pressure
   .
   # ?Coagulopathy:  PTT was elevated x2, but has responded well to
   vitamin K
   - Placed on standing Vit K
   - Will follow and trend coags.
   # AMS: likely [**2-4**] toxic/metabolic, though other etiologies could
   include stroke, and underlying dementia.
   - Will speak to family in order to outline pt
s baseline mental status
   once patient is extubated once again.  During the interval time between
   extubation and re-intubation, her mental status appeared to the family
   to be near baseline.
   - Consider imaging if no improvement toward baseline.
   .
   # Bradycardia:
   - Initially EP commented that her rhythm could be a variation of normal
   or tied to her underlying illness and recommended treating her sepsis
   and re-evaluating once she has recovered or becomes unstable.
   -If patient drops HR <40, EKG
   .-Tx hypotension fluids, then with dopamine or atropine
   # ARF: Likely [**2-4**] to volume depletion
 now resolved.
   - [**Month (only) 60**] need to re-dose medications based upon recovering renal
   function.  Will go over medications.
   - Volume replete as necessary.
   .
   # Paroxysmal afib:
   - Confirm not an anticoagulation candidate
   .
   # Alzheimer's: cont home meds
   .
   # PPx: H2 blocker, sc heparin, bowel regimen
   .
   # Code: full code.  Discussed with patient
s son [**Name (NI) 6287**] who wants
everything done
 including reintubation if patient fails extubation.
   .
   # Dispo: ICU level care
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2197-11-13**] 06:11 AM 45 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2197-11-9**] 02:00 PM
   Multi Lumen - [**2197-11-9**] 05:00 PM
   Arterial Line - [**2197-11-9**] 05:10 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2197-11-14 14:20:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   PSV wean successfully yesterday but unable to tolerate SBT with
   unfavorble RSBI
   Patient with Vanco started with GPC's seen in sputum
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2197-11-12**] 09:00 AM
   Ampicillin/Sulbactam (Unasyn) - [**2197-11-13**] 05:57 AM
   Vancomycin - [**2197-11-14**] 08:23 AM
   Metronidazole - [**2197-11-14**] 11:00 AM
   Ampicillin - [**2197-11-14**] 01:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2197-11-14**] 08:23 AM
   Fentanyl - [**2197-11-14**] 10:02 AM
   Furosemide (Lasix) - [**2197-11-14**] 11:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2197-11-14**] 02:13 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.7
C (98
   HR: 50 (50 - 73) bpm
   BP: 102/48(61) {87/36(51) - 132/65(76)} mmHg
   RR: 14 (14 - 26) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 60 kg (admission): 49.5 kg
   Height: 60 Inch
   CVP: 10 (5 - 15)mmHg
   Total In:
                                                                  2,995 mL
                                                                  1,711 mL
   PO:
   TF:
                                                                  1,100 mL
                                                                    465 mL
   IVF:
                                                                  1,745 mL
                                                                    891 mL
   Blood products:
   Total out:
                                                                  1,545 mL
                                                                  2,260 mL
   Urine:
                                                                  1,545 mL
                                                                  1,740 mL
   NG:
                                                                    520 mL
   Stool:
   Drains:
   Balance:
                                                                  1,450 mL
                                                                   -549 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 211 (211 - 496) mL
   PS : 0 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 123
   PIP: 25 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.30/58/128/25/1
   Ve: 7.2 L/min
   PaO2 / FiO2: 320
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.1 g/dL
   153 K/uL
   132 mg/dL
   0.8 mg/dL
   25 mEq/L
   4.1 mEq/L
   11 mg/dL
   112 mEq/L
   142 mEq/L
   30.5 %
   7.1 K/uL
        [image002.jpg]
                             [**2197-11-12**]  09:41 PM
                             [**2197-11-12**]  09:51 PM
                            [**2197-11-13**]  04:43 AM
                            [**2197-11-13**]  05:07 AM
                            [**2197-11-13**]  03:21 PM
                            [**2197-11-13**]  07:05 PM
                            [**2197-11-14**]  02:15 AM
                            [**2197-11-14**]  03:20 AM
                            [**2197-11-14**]  09:44 AM
                            [**2197-11-14**]  10:59 AM
   WBC
   6.9
   7.1
   Hct
   31.7
   29.5
   30.5
   Plt
   147
   153
   Cr
   0.8
   0.8
   TCO2
   22
   26
   26
   26
   27
   32
   30
   Glucose
   133
   132
   Other labs: PT / PTT / INR:13.1/47.6/1.1, CK / CKMB /
   Troponin-T:209/7/0.03, ALT / AST:31/47, Alk Phos / T Bili:44/1.6,
   Differential-Neuts:85.9 %, Lymph:9.7 %, Mono:4.1 %, Eos:0.3 %,
   Fibrinogen:397 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.2 g/dL, LDH:227
   IU/L, Ca++:7.3 mg/dL, Mg++:1.9 mg/dL, PO4:2.1 mg/dL
   Imaging: CXR-
   ETT
   OGT
   R-IJ all in good position
   No significant chagne in infiltrate and suggestion of right sided
   effusion is cearly seen and persistent.
   Microbiology: Sputum [**11-9**]--GPC's
   Assessment and Plan
   89 yo female admit with respiratory failure and now with suggestion of
   ventilatory associated pneumonia with GPC's noted on culture results.
   In this setting patient has had incapacity to tolerate meaninful wean
   from ventilatory support which may well be in part attributable to
   infection which is now under treatment with antibiotics.
 HYPOKALEMIA (LOW POTASSIUM, HYPOPOTASSEMIA)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
Likely urinary source with Proteus
   and has possible GPC involvement in sputum
   -Continue with Zosyn/Flagyl/Vanco
   -Follow up cultures
   -=Hemodynamic improvement to the point of tolerance of diuresis is seen
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   -Patient with PIP=31, Pplat=21 and PEEP=5
that leaves a mild increase
   in pulmonary resistance and mild decrease in pulmonary compliance which
   are likely contributing to persistent ventilatory failure
   -Lasix GTT to get patient negative 2-3 liters today
   -Continue with CMV today
   Bradycardia
no significant decrease in past 24 hours
 HYPERNATREMIA (HIGH SODIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2197-11-9**] 05:00 PM
   Arterial Line - [**2197-11-9**] 05:10 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: --will need to add PPI to regimen
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2197-11-15 06:06:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   failed SBT in AM yesterday due to RSBI of 130s and worsening acidosis
   on ABG, put back on AC for the day with attempt to diurese on lasix gtt
   Agitated overnight, getting Fentanyl for agitation which transiently
   lowers BP
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2197-11-12**] 09:00 AM
   Ampicillin/Sulbactam (Unasyn) - [**2197-11-13**] 05:57 AM
   Vancomycin - [**2197-11-14**] 08:23 AM
   Ampicillin - [**2197-11-15**] 02:00 AM
   Metronidazole - [**2197-11-15**] 02:20 AM
   Infusions:
   Furosemide (Lasix) - 3 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2197-11-14**] 11:30 AM
   Fentanyl - [**2197-11-14**] 05:31 PM
   Heparin Sodium (Prophylaxis) - [**2197-11-15**] 12:25 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-11-15**] 06:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.4
C (97.5
   HR: 62 (50 - 78) bpm
   BP: 99/40(60) {82/36(55) - 160/116(128)} mmHg
   RR: 14 (13 - 26) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 60 kg (admission): 49.5 kg
   Height: 60 Inch
    CVP: 9 (9 - 12)mmHg
   Total In:
                                                                  2,577 mL
                                                                    761 mL
   PO:
   TF:
                                                                    757 mL
                                                                    272 mL
   IVF:
                                                                  1,275 mL
                                                                    339 mL
   Blood products:
   Total out:
                                                                  3,105 mL
                                                                  1,290 mL
   Urine:
                                                                  2,545 mL
                                                                  1,290 mL
   NG:
                                                                    560 mL
   Stool:
   Drains:
   Balance:
                                                                   -528 mL
                                                                   -529 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 211 (211 - 211) mL
   PS : 0 cmH2O
   RR (Set): 14
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 88
   PIP: 27 cmH2O
   Plateau: 21 cmH2O
   SpO2: 100%
   ABG: 7.37/56/120/30/5
   Ve: 8 L/min
   PaO2 / FiO2: 300
   Physical Examination
   General Appearance: Not Well nourished, Thin with temporal wasting.
   Opens eyes to voice, does not follow commands but may be due to
   language barrier.
   Eyes / Conjunctiva: PERRL.
   Head, Ears, Nose, Throat: Normocephalic, chewing on Endotracheal tube,
   OG tube
   Cardiovascular: PMI Normal,nl S1 and S2, with no MRG.
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric) decreased breath sounds
   throughout
   Abdominal: Soft, Non-tender, Non-distended, Bowel sounds present
   Musculoskeletal: Muscle wasting
   Skin:  warm
   Neurologic: Responds to: voice, Movement: Non -purposeful, no longer
   sedated
   Labs / Radiology
   117 mg/dL
   0.8 mg/dL
   30 mEq/L
   3.5 mEq/L
   10 mg/dL
   108 mEq/L
   144 mEq/L
        [image002.jpg]
                            [**2197-11-13**]  04:43 AM
                            [**2197-11-13**]  05:07 AM
                            [**2197-11-13**]  03:21 PM
                            [**2197-11-13**]  07:05 PM
                            [**2197-11-14**]  02:15 AM
                            [**2197-11-14**]  03:20 AM
                            [**2197-11-14**]  09:44 AM
                            [**2197-11-14**]  10:59 AM
                            [**2197-11-15**]  03:42 AM
                            [**2197-11-15**]  04:02 AM
   WBC
   6.9
   7.1
   Hct
   29.5
   30.5
   Plt
   147
   153
   Cr
   0.8
   0.8
   0.8
   TCO2
   26
   26
   26
   27
   32
   30
   34
   Glucose
   133
   132
   117
   Other labs: Ca++:7.0 mg/dL, Mg++:2.1 mg/dL, PO4:1.7 mg/dL
   Micro: CDiff negative x2, Sputum: [**11-9**] and [**11-12**] w/MRSA, VRE on rectal
   swab from [**11-9**], UCx w/Proteus
   Radiographic studies: CXR w/no change from yesterday but sig change
   from admission.
   Assessment and Plan
   A/P: 89 yo with PMH of alzheimer's dementia, hypernatremia, UTI
   presents with AMS, sepsis physiology, UTI, and impressive hypernatremia
   .
   # Sepsis: Initially with fever, hypotension, hypoxia.  Source is likely
   urine given pyuria, though may have something in her [**Known lastname **] as well given
   MRSA in sputum.  UCx grew out pan sensitive proteus mirabilis, sputum
   growing MRSA.  BCx from [**11-9**] (day of admission) are negative. Patient
   no longer requiring pressors although blood pressure low patient is
   making urine
   - no CBC this am, to check today
   - Continue Vanc/Unasyn for MRSA in sputum and Proteus in urine
   - D/C flagyl for 2x negative CDiff
   - F/u blood Cx from [**11-12**]
   - CVP goal [**8-15**], MAP > 60, and Mixed venous sat > 70%.
   .
   # Respiratory failure: hypoxia and hypercarbia.  Likely now volume
   overloaded due to fluid resuscitation.  Also possible PNA and pleural
   effusions. Patient failed SBT yesterday due to RSBI >130 and increasing
   acidosis.  Unclear why patient unable to be weaned off vent. CXR may
   show slight improvement in fluid overload.  Patient w/slightly
   hyperinflated [**Known lastname **]s and CO2 retention  w/out acidosis on admission. No
   Hx of COPD given but may be undiagnosed thus far.
   - check cxr today
   - dead space calculation
   - try to wean to Pressure support (on assist-control today)
   - Follow ABG
   - continue duiresis with Lasix gtt today
   - PM lytes, monitor K and creatinine
   # Hypernatremia: likely from extreme dehydration.  Now resolved.
   - continue current free water boluses 300 q 3 hours, consider reducing
   if becomes hyponatremic
   # AMS: likely [**2-4**] toxic/metabolic, though other etiologies could
   include stroke, and underlying dementia.
   - Will speak to family in order to outline pt
s baseline mental status
   once patient is extubated once again.  During the interval time between
   extubation and re-intubation, her mental status appeared to the family
   to be near baseline.
   - Consider imaging tomorrow if no improvement toward baseline.
   .
   # Bradycardia: not new
 old records show ekg w/nsr at 65 w/1^st degree
   AV block 3 years ago.
   - Initially EP commented that her rhythm could be a variation of normal
   or tied to her underlying illness and recommended treating her sepsis
   and re-evaluating once she has recovered or becomes unstable.
   -If patient drops HR <40, EKG
   -Tx hypotension fluids, then with dopamine or atropine
   # Paroxysmal afib:
   - Confirm not an anticoagulation candidate
   .
   # Alzheimer's: cont home meds
   .
   # PPx: H2 blocker, sc heparin, bowel regimen
   .
   # Code: full code.  Discussed with patient
s son [**Name (NI) 6287**] who wants
everything done
 including reintubation if patient fails extubation.
   .
   # Dispo: ICU level care
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2197-11-15**] 02:18 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2197-11-9**] 05:00 PM
   Arterial Line - [**2197-11-9**] 05:10 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2197-11-15 10:49:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   Respiratory Failure
   Hypernatremia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 STOOL CULTURE - At [**2197-11-15**] 06:28 AM
   c. diff
   Patient with worsening respiratory failure--primary ventilatory
   compromise with attempt at SBT
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2197-11-13**] 05:57 AM
   Vancomycin - [**2197-11-14**] 08:23 AM
   Metronidazole - [**2197-11-15**] 02:20 AM
   Ampicillin - [**2197-11-15**] 08:55 AM
   Infusions:
   Furosemide (Lasix) - 3 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2197-11-14**] 11:30 AM
   Fentanyl - [**2197-11-14**] 05:31 PM
   Heparin Sodium (Prophylaxis) - [**2197-11-15**] 08:55 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2197-11-15**] 10:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 50 (50 - 78) bpm
   BP: 105/45(69) {57/36(47) - 160/116(128)} mmHg
   RR: 16 (13 - 21) insp/min
   SpO2: 75%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 60 kg (admission): 49.5 kg
   Height: 60 Inch
   CVP: 9 (9 - 11)mmHg
   Total In:
                                                                  2,577 mL
                                                                  1,314 mL
   PO:
   TF:
                                                                    757 mL
                                                                    473 mL
   IVF:
                                                                  1,275 mL
                                                                    541 mL
   Blood products:
   Total out:
                                                                  3,105 mL
                                                                  2,270 mL
   Urine:
                                                                  2,545 mL
                                                                  2,270 mL
   NG:
                                                                    560 mL
   Stool:
   Drains:
   Balance:
                                                                   -528 mL
                                                                   -956 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 88
   PIP: 28 cmH2O
   Plateau: 18 cmH2O
   SpO2: 75%
   ABG: 7.37/56/120/30/5
   Ve: 5.3 L/min
   PaO2 / FiO2: 300
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.1 g/dL
   153 K/uL
   117 mg/dL
   0.8 mg/dL
   30 mEq/L
   3.5 mEq/L
   10 mg/dL
   108 mEq/L
   144 mEq/L
   30.5 %
   7.1 K/uL
        [image002.jpg]
                            [**2197-11-13**]  04:43 AM
                            [**2197-11-13**]  05:07 AM
                            [**2197-11-13**]  03:21 PM
                            [**2197-11-13**]  07:05 PM
                            [**2197-11-14**]  02:15 AM
                            [**2197-11-14**]  03:20 AM
                            [**2197-11-14**]  09:44 AM
                            [**2197-11-14**]  10:59 AM
                            [**2197-11-15**]  03:42 AM
                            [**2197-11-15**]  04:02 AM
   WBC
   6.9
   7.1
   Hct
   29.5
   30.5
   Plt
   147
   153
   Cr
   0.8
   0.8
   0.8
   TCO2
   26
   26
   26
   27
   32
   30
   34
   Glucose
   133
   132
   117
   Other labs: PT / PTT / INR:13.1/47.6/1.1, CK / CKMB /
   Troponin-T:209/7/0.03, ALT / AST:31/47, Alk Phos / T Bili:44/1.6,
   Differential-Neuts:85.9 %, Lymph:9.7 %, Mono:4.1 %, Eos:0.3 %,
   Fibrinogen:397 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.2 g/dL, LDH:227
   IU/L, Ca++:7.0 mg/dL, Mg++:2.1 mg/dL, PO4:1.7 mg/dL
   Fluid analysis / Other labs: 7.37/56/120
   Imaging: CXR-CVL, ETT and OGT in good position, blunted CP angles
   consistent with small effusions ntoed.  Modest increase in pulmonary
   volumes
   Microbiology: Sputum-_MRSA in past, recent one is without positive
   growth
   Assessment and Plan
   89 yo female wtih admission with urosepsis complicated by shock and
   respiratory failure now with slow to resolve respiratory failure.  She
   had worsening hypercarbia with SBT and unfavorable RSBI all concerning
   for persistent ventilatory failure.
   1)Respiratory Failure-She has evidence on CXR of some hyperinflation
   which has been seen throughout.  The reason for intubation was
   respiratory compromise in the setting of sepsis.  At this time she has
   favorable pulmonary mechanics (Resist=8, Complicance=40) and we have
   moved to diuresis to continue to create favorable conditions for
   extubation.
   -Will move to PSV and SBT trial today
   -Source of failure may be related to excess dead space
will measure
   Vd/Vt if recurrent hypercarbia seen
   -Will check NIF to consider weakness as possible source for failure in
   the setting of favorable pulmonary mechanics and recurrent hypercarbia
   -Hope to move to extubation today
 HYPOKALEMIA (LOW POTASSIUM, HYPOPOTASSEMIA)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   -Vanco/Unasyn/Flagyl to continue
   -Hypotension resolved at this time
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   -Responsive to verbal prompts today but minimal following of commands
   -Bolus sedation only
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 HYPERNATREMIA (HIGH SODIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2197-11-15**] 06:43 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2197-11-9**] 05:00 PM
   Arterial Line - [**2197-11-9**] 05:10 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2197-11-16 05:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
     * to PSV - did well for a while, then became apnic -> changed to MMV
       at midnight
     * NIF calculated: 16
     * Dead space calculation (on PSV): 70%
     * Flagyl D/C
     * vanco trough 15.1
     * phos repleted
     * IJ needed re-suturing (came out slightly) - in good position by f/u
       CXR
     * Diuresis: -700cc (met goal)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2197-11-13**] 05:57 AM
   Metronidazole - [**2197-11-15**] 02:20 AM
   Vancomycin - [**2197-11-15**] 10:00 AM
   Ampicillin - [**2197-11-16**] 02:15 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2197-11-16**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-11-16**] 05:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.2
C (98.9
   HR: 58 (50 - 69) bpm
   BP: 118/47(70) {57/30(45) - 147/60(92)} mmHg
   RR: 24 (10 - 27) insp/min
   SpO2: 99%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 60 kg (admission): 49.5 kg
   Height: 60 Inch
    CVP: 1 (1 - 4)mmHg
   Total In:
                                                                  3,339 mL
                                                                    654 mL
   PO:
   TF:
                                                                    960 mL
                                                                    280 mL
   IVF:
                                                                  1,179 mL
                                                                    149 mL
   Blood products:
   Total out:
                                                                  5,160 mL
                                                                    400 mL
   Urine:
                                                                  5,160 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,821 mL
                                                                    254 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 358 (241 - 362) mL
   PS : 15 cmH2O
   RR (Set): 10
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 155
   PIP: 20 cmH2O
   Plateau: 18 cmH2O
   SpO2: 99%
   ABG: 7.39/53/130/35/6
   NIF: -16 cmH2O
   Ve: 4.9 L/min
   PaO2 / FiO2: 325
   Physical Examination
   General Appearance: Not Well nourished, Thin with temporal wasting.
   Opens eyes to voice, does not follow commands but may be due to
   language barrier.
   Eyes / Conjunctiva: PERRL.
   Head, Ears, Nose, Throat: Normocephalic, chewing on Endotracheal tube,
   OG tube
   Cardiovascular: PMI Normal,nl S1 and S2, with no MRG.
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric) decreased breath sounds
   throughout
   Abdominal: Soft, Non-tender, Non-distended, Bowel sounds present
   Musculoskeletal: Muscle wasting
   Skin:  warm
   Neurologic: Responds to: voice, Movement: Non -purposeful, no longer
   sedated
   Labs / Radiology
   237 K/uL
   8.9 g/dL
   119 mg/dL
   0.8 mg/dL
   35 mEq/L
   3.7 mEq/L
   9 mg/dL
   103 mEq/L
   140 mEq/L
   26.7 %
   5.4 K/uL
        [image002.jpg]
                            [**2197-11-14**]  03:20 AM
                            [**2197-11-14**]  09:44 AM
                            [**2197-11-14**]  10:59 AM
                            [**2197-11-15**]  03:42 AM
                            [**2197-11-15**]  04:02 AM
                            [**2197-11-15**]  11:00 AM
                            [**2197-11-15**]  02:50 PM
                            [**2197-11-15**]  03:18 PM
                            [**2197-11-15**]  07:11 PM
                            [**2197-11-16**]  05:00 AM
   WBC
   5.8
   5.4
   Hct
   25.9
   27.0
   26.7
   Plt
   189
   237
   Cr
   0.8
   0.7
   0.8
   TCO2
   27
   32
   30
   34
   33
   Glucose
   117
   136
   119
   Other labs: PT / PTT / INR:16.1/63.6/1.4, CK / CKMB /
   Troponin-T:209/7/0.03, ALT / AST:31/47, Alk Phos / T Bili:44/1.6,
   Differential-Neuts:85.9 %, Lymph:9.7 %, Mono:4.1 %, Eos:0.3 %,
   Fibrinogen:397 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.2 g/dL, LDH:227
   IU/L, Ca++:7.2 mg/dL, Mg++:1.9 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   A/P: 89 yo with PMH of alzheimer's dementia, hypernatremia, UTI
   presents with AMS, sepsis physiology, UTI, and impressive hypernatremia
   .
   # Sepsis: Initially with fever, hypotension, hypoxia.  Source is likely
   urine given pyuria, though may have something in her [**Known lastname **] as well given
   MRSA in sputum.  UCx grew out pan sensitive proteus mirabilis, sputum
   growing MRSA.  BCx from [**11-9**] (day of admission) are negative. Patient
   no longer requiring pressors although blood pressure low patient is
   making urine
   - no CBC this am, to check today
   - Continue Vanc/Unasyn for MRSA in sputum and Proteus in urine
   - D/C flagyl for 2x negative CDiff
   - F/u blood Cx from [**11-12**]
   - CVP goal [**8-15**], MAP > 60, and Mixed venous sat > 70%.
   .
   # Respiratory failure: hypoxia and hypercarbia.  Likely now volume
   overloaded due to fluid resuscitation.  Also possible PNA and pleural
   effusions. Patient failed SBT yesterday due to RSBI >130 and increasing
   acidosis.  Unclear why patient unable to be weaned off vent. CXR may
   show slight improvement in fluid overload.  Patient w/slightly
   hyperinflated [**Known lastname **]s and CO2 retention  w/out acidosis on admission. No
   Hx of COPD given but may be undiagnosed thus far.
   - check cxr today
   - dead space calculation
   - try to wean to Pressure support (on assist-control today)
   - Follow ABG
   - continue duiresis with Lasix gtt today
   - PM lytes, monitor K and creatinine
   # Hypernatremia: likely from extreme dehydration.  Now resolved.
   - continue current free water boluses 300 q 3 hours, consider reducing
   if becomes hyponatremic
   # AMS: likely [**2-4**] toxic/metabolic, though other etiologies could
   include stroke, and underlying dementia.
   - Will speak to family in order to outline pt
s baseline mental status
   once patient is extubated once again.  During the interval time between
   extubation and re-intubation, her mental status appeared to the family
   to be near baseline.
   - Consider imaging tomorrow if no improvement toward baseline.
   .
   # Bradycardia: not new
 old records show ekg w/nsr at 65 w/1^st degree
   AV block 3 years ago.
   - Initially EP commented that her rhythm could be a variation of normal
   or tied to her underlying illness and recommended treating her sepsis
   and re-evaluating once she has recovered or becomes unstable.
   -If patient drops HR <40, EKG
   -Tx hypotension fluids, then with dopamine or atropine
   # Paroxysmal afib:
   - Confirm not an anticoagulation candidate
   .
   # Alzheimer's: cont home meds
   .
   # PPx: H2 blocker, sc heparin, bowel regimen
   .
   # Code: full code.  Discussed with patient
s son [**Name (NI) 6287**] who wants
everything done
 including reintubation if patient fails extubation.
   .
   # Dispo: ICU level care
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2197-11-15**] 10:43 PM 47.[**Telephone/Fax (3) 6478**] mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2197-11-9**] 05:10 PM
   Multi Lumen - [**2197-11-9**] 05:53 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2197-11-16 11:21:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   NIF=16
   Vd/Vt=70%
   PSV trial this morning
   Lasix gtt to negative 1.8 liters over past 24 hours
   History obtained from Patient
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2197-11-15**] 02:20 AM
   Ampicillin - [**2197-11-16**] 08:00 AM
   Vancomycin - [**2197-11-16**] 08:42 AM
   Infusions:
   Furosemide (Lasix) - 3 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2197-11-16**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, Fever
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2197-11-16**] 11:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.4
C (99.3
   HR: 61 (50 - 69) bpm
   BP: 106/36(54) {83/32(44) - 138/72(82)} mmHg
   RR: 20 (11 - 29) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 60 kg (admission): 49.5 kg
   Height: 60 Inch
   CVP: 2 (0 - 4)mmHg
   Total In:
                                                                  3,739 mL
                                                                  2,068 mL
   PO:
   TF:
                                                                    960 mL
                                                                    529 mL
   IVF:
                                                                  1,429 mL
                                                                    774 mL
   Blood products:
   Total out:
                                                                  5,160 mL
                                                                  1,135 mL
   Urine:
                                                                  5,160 mL
                                                                    835 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,421 mL
                                                                    933 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 243 (241 - 362) mL
   PS : 15 cmH2O
   RR (Set): 10
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 155
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: 7.40/60/129/35/10
   NIF: -16 cmH2O
   Ve: 5.2 L/min
   PaO2 / FiO2: 322
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.9 g/dL
   237 K/uL
   119 mg/dL
   0.8 mg/dL
   35 mEq/L
   3.7 mEq/L
   9 mg/dL
   103 mEq/L
   140 mEq/L
   26.7 %
   5.4 K/uL
        [image002.jpg]
                            [**2197-11-14**]  09:44 AM
                            [**2197-11-14**]  10:59 AM
                            [**2197-11-15**]  03:42 AM
                            [**2197-11-15**]  04:02 AM
                            [**2197-11-15**]  11:00 AM
                            [**2197-11-15**]  02:50 PM
                            [**2197-11-15**]  03:18 PM
                            [**2197-11-15**]  07:11 PM
                            [**2197-11-16**]  05:00 AM
                            [**2197-11-16**]  09:49 AM
   WBC
   5.8
   5.4
   Hct
   25.9
   27.0
   26.7
   Plt
   189
   237
   Cr
   0.8
   0.7
   0.8
   TCO2
   32
   30
   34
   33
   39
   Glucose
   117
   136
   119
   Other labs: PT / PTT / INR:16.1/63.6/1.4, CK / CKMB /
   Troponin-T:209/7/0.03, ALT / AST:31/47, Alk Phos / T Bili:44/1.6,
   Differential-Neuts:85.9 %, Lymph:9.7 %, Mono:4.1 %, Eos:0.3 %,
   Fibrinogen:397 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.2 g/dL, LDH:227
   IU/L, Ca++:7.2 mg/dL, Mg++:1.9 mg/dL, PO4:2.0 mg/dL
   Imaging: CXR--Persistent moderate bilateral effusions, ETT and CVL in
   place
   Assessment and Plan
   89 yo female admit with sepsis and respiratory failure now with
   signficant findings of increased dead space ventilation and weakness
   contributing to persistent ventilatory failure.  ALthough initial
   infectious insult has resolved we have signficant concern over patient
   capacity to successfully move to extubation and indepdendent
   ventilation.  This is based both upon background [**Known lastname **] disease and what
   is likely critical illness neuropathy contributing to weakness.  We
   need to trial for extubation with SBT prior to extubation
   1)Respiratory Failure-
   -NIF and Vd/Vd unfavorable but not absolute contraindication to
   extubation
   -Continue diruesis today and goal to negative balance and
   -Patient with good mental status
   -Patient with minimal sedation
   -Continue with nutrition and support for ventilatory motor strength.
   2)Sepsis-
   -Resolved
   -Completing antibiotics
   -Move to diuresis
 EDEMA, PERIPHERAL
 DIARRHEA
 HYPOKALEMIA (LOW POTASSIUM, HYPOPOTASSEMIA)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 HYPERNATREMIA (HIGH SODIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2197-11-15**] 10:43 PM 47.[**Telephone/Fax (3) 6478**] mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2197-11-9**] 05:10 PM
   Multi Lumen - [**2197-11-9**] 05:53 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35

2197-11-17 05:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**Known lastname 904**]
   -diurese 1-2L
   -PM lytes
   -PSV trial
   -SBT/ABG this PM
   -started diamox
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2197-11-15**] 02:20 AM
   Ampicillin - [**2197-11-16**] 08:00 AM
   Vancomycin - [**2197-11-16**] 08:42 AM
   Ampicillin/Sulbactam (Unasyn) - [**2197-11-17**] 01:59 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2197-11-17**] 12:01 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-11-17**] 05:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.8
C (98.2
   HR: 59 (50 - 87) bpm
   BP: 104/39(61) {77/33(47) - 147/107(121)} mmHg
   RR: 16 (12 - 35) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 60 kg (admission): 49.5 kg
   Height: 60 Inch
    CVP: 10 (2 - 10)mmHg
   Total In:
                                                                  3,237 mL
                                                                    578 mL
   PO:
   TF:
                                                                  1,139 mL
                                                                    257 mL
   IVF:
                                                                    944 mL
                                                                    171 mL
   Blood products:
   Total out:
                                                                  3,425 mL
                                                                  1,060 mL
   Urine:
                                                                  3,125 mL
                                                                  1,060 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -188 mL
                                                                   -482 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 412 (150 - 427) mL
   PS : 15 cmH2O
   RR (Spontaneous): 8
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 18 cmH2O
   SpO2: 99%
   ABG: 7.43/59/114/34/12
   Ve: 4 L/min
   PaO2 / FiO2: 285
   Physical Examination
   General Appearance: Not Well nourished, Thin with temporal wasting.
   Opens eyes to voice, does not follow commands but may be due to
   language barrier.
   Eyes / Conjunctiva: PERRL.
   Head, Ears, Nose, Throat: Normocephalic, chewing on Endotracheal tube,
   OG tube
   Cardiovascular: PMI Normal,nl S1 and S2, with no MRG.
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric) decreased breath sounds
   throughout
   Abdominal: Soft, Non-tender, Non-distended, Bowel sounds present
   Musculoskeletal: Muscle wasting
   Skin:  warm
   Neurologic: Responds to: voice, Movement: Non -purposeful, no longer
   sedated
   Labs / Radiology
   272 K/uL
   9.3 g/dL
   107 mg/dL
   0.8 mg/dL
   34 mEq/L
   4.4 mEq/L
   10 mg/dL
   102 mEq/L
   140 mEq/L
   28.3 %
   6.4 K/uL
        [image002.jpg]
                            [**2197-11-15**]  07:11 PM
                            [**2197-11-16**]  05:00 AM
                            [**2197-11-16**]  09:49 AM
                            [**2197-11-16**]  12:19 PM
                            [**2197-11-16**]  12:27 PM
                            [**2197-11-16**]  02:15 PM
                            [**2197-11-16**]  06:11 PM
                            [**2197-11-16**]  06:28 PM
                            [**2197-11-17**]  05:00 AM
                            [**2197-11-17**]  05:21 AM
   WBC
   5.4
   6.4
   Hct
   27.0
   26.7
   28.3
   Plt
   237
   272
   Cr
   0.8
   0.8
   0.8
   TCO2
   39
   37
   37
   38
   40
   Glucose
   119
   114
   121
   107
   Other labs: PT / PTT / INR:16.1/63.6/1.4, CK / CKMB /
   Troponin-T:209/7/0.03, ALT / AST:31/47, Alk Phos / T Bili:44/1.6,
   Differential-Neuts:85.9 %, Lymph:9.7 %, Mono:4.1 %, Eos:0.3 %,
   Fibrinogen:397 mg/dL, Lactic Acid:1.5 mmol/L, Albumin:2.2 g/dL, LDH:227
   IU/L, Ca++:7.2 mg/dL, Mg++:1.8 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   A/P: 89 yo with PMH of alzheimer's dementia, hypernatremia, UTI
   presents with AMS, sepsis physiology, UTI, and impressive hypernatremia
   .
   # Sepsis: Initially with fever, hypotension, hypoxia.  Urine grew out
   pan sensitive proteus mirabilis, sputum growing MRSA.  BCx from [**11-9**]
   (day of admission) are negative. Patient no longer requiring pressors.
   Stool tests for C. diff negative x 3 & flagyl stopped [**11-15**].
   - Continue Vanc/Unasyn for MRSA in sputum and Proteus in urine
   - F/u blood Cx from [**11-12**]
   - CVP goal [**8-15**], MAP > 60, and Mixed venous sat > 70%.
   .
   # Respiratory failure: hypoxia and hypercarbia.  Initially felt to be
   due to volume overload from fluid resuscitation and possible pneumonia
   with pleural effusions.  Continues to fail SBTs with high RSBIs.
   Patient with slightly hyperinflated [**Known lastname **]s and CO2 retention  without
   acidosis on admission. No Hx of COPD given but may be undiagnosed thus
   far.   NIF poor at 16 with large amount of dead space ventilation (70%
   on PSV).  Difficulty of weaning from the vent likely a mix of decreased
   respiratory muscle strength combined with underlying intrinsic [**Known lastname **]
   disease.
   - Continue on Pressure support as tolerated
   - Continue SBT as tolerated
   - Follow ABG
   - continue duiresis with Lasix gtt today
   - PM lytes, monitor K and creatinine
   # Hypernatremia: likely from extreme dehydration.  Now resolved.
   - continue current free water boluses 300 q 3 hours, consider reducing
   if becomes hyponatremic
   # AMS: likely [**2-4**] toxic/metabolic, though other etiologies could
   include stroke, and underlying dementia.
   - Will speak to family in order to outline pt
s baseline mental status
   once patient is extubated once again.  During the interval time between
   extubation and re-intubation, her mental status appeared to the family
   to be near baseline.
   - Consider imaging tomorrow if no improvement toward baseline.
   .
   # Bradycardia: not new
 old records show ekg w/nsr at 65 w/1^st degree
   AV block 3 years ago.
   - Initially EP commented that her rhythm could be a variation of normal
   or tied to her underlying illness and recommended treating her sepsis
   and re-evaluating once she has recovered or becomes unstable.
   -If patient drops HR <40, EKG
   -Tx hypotension fluids, then with dopamine or atropine
   # Paroxysmal afib:
   - Confirm not an anticoagulation candidate
   .
   # Alzheimer's: cont home meds
   .
   # PPx: H2 blocker, sc heparin, bowel regimen
   .
   # FEN: Tolerating TF at goal; Lasix drip for diuresis, repleting
   electrolytes prn
   .
   # Code: full code.  Discussed with patient
s son [**Name (NI) 6287**] who wants
everything done
 including reintubation if patient fails extubation.
   .
   # Dispo: ICU level care
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2197-11-16**] 09:22 PM 45 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2197-11-9**] 05:10 PM
   Multi Lumen - [**2197-11-9**] 05:53 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2197-11-17 12:16:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   --Patient with recurrent hyercarbia with PSV-->SBT trial as decrease in
   tidal volume was seen
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2197-11-15**] 02:20 AM
   Ampicillin - [**2197-11-16**] 08:00 AM
   Ampicillin/Sulbactam (Unasyn) - [**2197-11-17**] 08:00 AM
   Vancomycin - [**2197-11-17**] 08:51 AM
   Infusions:
   Furosemide (Lasix) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2197-11-17**] 12:01 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Tachypnea
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2197-11-17**] 12:06 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.8
C (100.1
   HR: 50 (50 - 87) bpm
   BP: 78/33(46) {71/33(45) - 147/107(121)} mmHg
   RR: 12 (12 - 35) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 60 kg (admission): 49.5 kg
   Height: 60 Inch
   CVP: 10 (9 - 10)mmHg
   Total In:
                                                                  3,237 mL
                                                                  1,470 mL
   PO:
   TF:
                                                                  1,139 mL
                                                                    536 mL
   IVF:
                                                                    944 mL
                                                                    545 mL
   Blood products:
   Total out:
                                                                  3,425 mL
                                                                  1,700 mL
   Urine:
                                                                  3,125 mL
                                                                  1,700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -188 mL
                                                                   -230 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 256 (256 - 431) mL
   PS : 15 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 104
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: 7.43/59/114/37/12
   Ve: 6.6 L/min
   PaO2 / FiO2: 285
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   272 K/uL
   107 mg/dL
   0.9 mg/dL
   37 mEq/L
   3.7 mEq/L
   11 mg/dL
   101 mEq/L
   140 mEq/L
   28.3 %
   6.4 K/uL
        [image002.jpg]
                            [**2197-11-15**]  07:11 PM
                            [**2197-11-16**]  05:00 AM
                            [**2197-11-16**]  09:49 AM
                            [**2197-11-16**]  12:19 PM
                            [**2197-11-16**]  12:27 PM
                            [**2197-11-16**]  02:15 PM
                            [**2197-11-16**]  06:11 PM
                            [**2197-11-16**]  06:28 PM
                            [**2197-11-17**]  05:00 AM
                            [**2197-11-17**]  05:21 AM
   WBC
   5.4
   6.4
   Hct
   27.0
   26.7
   28.3
   Plt
   237
   272
   Cr
   0.8
   0.8
   0.8
   0.9
   TCO2
   39
   37
   37
   38
   40
   Glucose
   119
   114
   121
   115
   107
   Other labs: PT / PTT / INR:15.1/106.6/1.3, CK / CKMB /
   Troponin-T:209/7/0.03, ALT / AST:31/47, Alk Phos / T Bili:44/1.6,
   Differential-Neuts:85.9 %, Lymph:9.7 %, Mono:4.1 %, Eos:0.3 %,
   Fibrinogen:397 mg/dL, Lactic Acid:1.5 mmol/L, Albumin:2.2 g/dL, LDH:227
   IU/L, Ca++:8.3 mg/dL, Mg++:2.4 mg/dL, PO4:3.1 mg/dL
   Fluid analysis / Other labs: 7.25/81/92
   Assessment and Plan
   89 yo female admit iniitally with sepsis who now has continued and
   prolonged course of ventilatory failure.  She has barriers to
   extubation of neuromuscular weakness and chronic obstructive [**Known lastname **]
   disease leading to increased dead space ventilation.  With decrease in
   her levels of pressure support her tidal volume decreases quite quickly
   and her dead space ventilation is substantially increased leading to
   hypercarbia and persistent ventilatory failure. This is a challenging
   balance and would suggest that this prolonged course of ventilatory
   failure may be most readily assessed and managed over a prolonged
   period with chronic support with tracheostomy with maximal safety in
   weaning.
   1)Respiratory Failure-Given the patient with much improved mental
   status today
this would make it likely that this represents an optimal
   opportunity for trial of extubation today with continued expectation
   for intermittent BIPAP support with non-invasive ventilation.  If she
   fails will have to consider tracheostomy but this represents a clear
   opportunity for trial of extubation.
   -Continue with PSV to continue 15/5, FIO2=0.4
   -Will continue with diuresis
   -Will need tracheostomy for chronic ventilatory support if unable to
   increase spontaneous effective ventilation
   -WIll discuss with family in detail the role of tracheostomy over time
   -Continue Diamox
   2)Sepsis-
   -Improved and maintained hemodynamics
   -Continue with antibiotics
   -C. Diff negative x3
   -Vanco/Unasyn to continue
   3)Volume Overload-
   -Lasix as tolerated to negative fluid balance
   -Will need to stabilize HCO3-
 IMPAIRED SKIN INTEGRITY
 EDEMA, PERIPHERAL
 DIARRHEA
 HYPOKALEMIA (LOW POTASSIUM, HYPOPOTASSEMIA)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2197-11-16**] 09:22 PM 45 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2197-11-9**] 05:10 PM
   Multi Lumen - [**2197-11-9**] 05:53 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2197-11-18 05:17:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Pt was extubated at 3:20pm.  Was placed on Bipap.  At 7pm, was more
   tachypneic and desatted to the 80s.  Mask was not fitted around face
   and was falling down face.  Mask adjusted, pt
s [**Known lastname **]s with poor air
   movement, coarse breath sounds.  Hypertensive to 220s systolic.  Got 40
   IV Lasix, 10 IV Hydralazine.  ABG showed worsening acidosis,
   hypercarbia.  Pt increasing more tachypneic and was intubated at
   8:15pm.
   After intubation (~10pm) was hypotensive with SBPs in the 70s-80s.
   Received 4L NS fluid bolus.  BP remained in high-80s-90s/30s-40s with
   MAPs in the 50s.  Urine output was good.
 INVASIVE VENTILATION - STOP [**2197-11-17**] 03:20 PM
 INVASIVE VENTILATION - START [**2197-11-17**] 08:14 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2197-11-17**] 08:51 AM
   Ampicillin/Sulbactam (Unasyn) - [**2197-11-17**] 02:30 PM
   Ampicillin - [**2197-11-18**] 02:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-11-18**] 05:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.2
C (97.1
   HR: 56 (50 - 81) bpm
   BP: 86/31(47) {71/31(45) - 202/70(111)} mmHg
   RR: 20 (9 - 36) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 60 kg (admission): 49.5 kg
   Height: 60 Inch
    CVP: -5 (-5 - -5)mmHg
   Total In:
                                                                  2,076 mL
                                                                  4,153 mL
   PO:
   TF:
                                                                    505 mL
   IVF:
                                                                    851 mL
                                                                  4,153 mL
   Blood products:
   Total out:
                                                                  2,910 mL
                                                                    840 mL
   Urine:
                                                                  2,910 mL
                                                                    840 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -834 mL
                                                                  3,313 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 256 (256 - 431) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 85
   PIP: 27 cmH2O
   Plateau: 20 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.40/49/168/31/4
   Ve: 7.4 L/min
   PaO2 / FiO2: 336
   Physical Examination
   General Appearance: Thin with temporal wasting.  Awake and alert, does
   not follow commands.
   Eyes / Conjunctiva: PERRL.
   Head, Ears, Nose, Throat: Normocephalic, chewing on Endotracheal tube,
   OG tube
   Cardiovascular: PMI Normal,nl S1 and S2, with no MRG.
   Peripheral Vascular: warm extremities
   Respiratory / Chest: (Expansion: Symmetric) crackles throughout
   Abdominal: Soft, Non-tender, Non-distended, Bowel sounds present
   Musculoskeletal: Muscle wasting
   Skin:  warm
   Neurologic: Responds to: voice, Movement: Non -purposeful, no longer
   sedated
   Labs / Radiology
   279 K/uL
   8.9 g/dL
   93 mg/dL
   0.9 mg/dL
   31 mEq/L
   3.8 mEq/L
   11 mg/dL
   108 mEq/L
   144 mEq/L
   27.3 %
   7.4 K/uL
        [image002.jpg]
                            [**2197-11-16**]  06:28 PM
                            [**2197-11-17**]  05:00 AM
                            [**2197-11-17**]  05:21 AM
                            [**2197-11-17**]  01:12 PM
                            [**2197-11-17**]  04:43 PM
                            [**2197-11-17**]  05:07 PM
                            [**2197-11-17**]  07:40 PM
                            [**2197-11-17**]  09:22 PM
                            [**2197-11-18**]  02:50 AM
                            [**2197-11-18**]  03:20 AM
   WBC
   6.4
   7.4
   Hct
   28.3
   27.3
   Plt
   272
   279
   Cr
   0.9
   1.0
   0.9
   TCO2
   38
   40
   40
   39
   41
   34
   31
   Glucose
   115
   107
   105
   93
   Other labs: PT / PTT / INR:14.0/38.4/1.2, CK / CKMB /
   Troponin-T:209/7/0.03, ALT / AST:31/47, Alk Phos / T Bili:44/1.6,
   Differential-Neuts:85.9 %, Lymph:9.7 %, Mono:4.1 %, Eos:0.3 %,
   Fibrinogen:397 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.2 g/dL, LDH:256
   IU/L, Ca++:7.5 mg/dL, Mg++:2.1 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   A/P: 89 yo with PMH of alzheimer's dementia, hypernatremia, UTI
   presents with AMS, sepsis physiology, UTI, and impressive
   hypernatremia, initially intubated, extubated and re-intubated X 2 for
   worsening acidosis, hypercarbia, ? flash pulmonary edema.
   .
   # Hypotension: Responsive to fluid boluses last night.  Pt received 4L
   NS with good urine output.  Baseline is probably low.  Likely secondary
   to medications surrounding intubation.  Unlikely to be sepsis given
   that pt is afebrile, no WBCs and continuing treatment with abxs.
   - pt normotensive currently, will hold off on diuresis today for better
   hemodynamic stability
   - goal MAP>55 in pt with normal urine output
   .
   # Sepsis: Initially with fever, hypotension, hypoxia.  Urine grew out
   pan sensitive proteus mirabilis, sputum growing MRSA.  BCx from [**11-9**]
   (day of admission) are negative. Patient no longer requiring pressors.
   Stool tests for C. diff negative x 3 & flagyl stopped [**11-15**]. Now on Day
   7 of Vanco, Day 5 of Unasyn.
   - Continue Vanc/Unasyn for MRSA in sputum and Proteus in urine
   - F/u blood Cx from [**11-12**]
   - CVP goal [**8-15**], MAP > 60, and Mixed venous sat > 70%.
   .
   # Respiratory failure: hypoxia and hypercarbia.  Initially felt to be
   due to volume overload from fluid resuscitation and possible pneumonia
   with pleural effusions.  Continues to fail SBTs with high RSBIs.
   Patient with slightly hyperinflated [**Known lastname **]s and CO2 retention  without
   acidosis on admission. No Hx of COPD given but may be undiagnosed thus
   far.   NIF poor at 16 with large amount of dead space ventilation (70%
   on PSV).  Difficulty of weaning from the vent likely a mix of decreased
   respiratory muscle strength combined with underlying intrinsic [**Known lastname **]
   disease.
   - Continue on Pressure support as tolerated
   - SBT today and re-check ABG in 1hr -> if tolerates SBT, extubate to
   BiPAP
   - continue duiresis gently with Lasix gtt today
   - PM lytes, monitor K and creatinine
   # AMS: likely [**2-4**] toxic/metabolic, though other etiologies could
   include stroke, and underlying dementia.
   - Will speak to family in order to outline pt
s baseline mental status
   once patient is extubated once again.  During the interval time between
   extubation and re-intubation, her mental status appeared to the family
   to be near baseline.
   - Again, consider imaging if no improvement toward baseline.
   # Hypernatremia: likely from extreme dehydration.  Now resolved.
   - continue current free water boluses 300 q 3 hours, consider reducing
   if becomes hyponatremic
   .
   # Bradycardia: not new
 old records show ekg w/nsr at 65 w/1^st degree
   AV block 3 years ago.
   - Initially EP commented that her rhythm could be a variation of normal
   or tied to her underlying illness and recommended treating her sepsis
   and re-evaluating once she has recovered or becomes unstable.
   -If patient drops HR <40, EKG
   -Tx hypotension fluids, then with dopamine or atropine
   # Paroxysmal afib:
   - Confirm not an anticoagulation candidate
   .
   # Alzheimer's: cont home meds
   .
   # PPx: H2 blocker, sc heparin, bowel regimen
   .
   # FEN: Tolerating TF at goal; Lasix drip for diuresis, repleting
   electrolytes prn
   .
   # Code: full code.  Discussed with patient
s son [**Name (NI) 6287**] who wants
everything done
 including reintubation if patient fails extubation.
   .
   # Dispo: ICU level care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2197-11-9**] 05:10 PM
   Multi Lumen - [**2197-11-9**] 05:53 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2197-11-18 10:56:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   89 yr old with Alzheimers and resp failure
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2197-11-17**] 03:20 PM
 NON-INVASIVE VENTILATION - START [**2197-11-17**] 06:00 PM
 NON-INVASIVE VENTILATION - STOP [**2197-11-17**] 08:05 PM
 INVASIVE VENTILATION - START [**2197-11-17**] 08:14 PM
   Failed extubation, could not tolerate NIPPV - ABG 7.16/108/71 -
   reintubated
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2197-11-18**] 02:00 AM
   Ampicillin/Sulbactam (Unasyn) - [**2197-11-18**] 07:58 AM
   Vancomycin - [**2197-11-18**] 08:44 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Dyspnea, Tachypnea
   Flowsheet Data as of  [**2197-11-18**] 10:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.1
C (97
   HR: 56 (50 - 81) bpm
   BP: 109/46(68) {73/31(47) - 202/70(111)} mmHg
   RR: 18 (9 - 36) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 60 kg (admission): 49.5 kg
   Height: 60 Inch
   CVP: 15 (-5 - 15)mmHg
   Total In:
                                                                  2,076 mL
                                                                  5,359 mL
   PO:
   TF:
                                                                    505 mL
                                                                     58 mL
   IVF:
                                                                    851 mL
                                                                  4,656 mL
   Blood products:
   Total out:
                                                                  2,910 mL
                                                                  1,122 mL
   Urine:
                                                                  2,910 mL
                                                                  1,122 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -834 mL
                                                                  4,237 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 256 (256 - 256) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 85
   PIP: 27 cmH2O
   Plateau: 20 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.40/49/168/31/4
   Ve: 8.1 L/min
   PaO2 / FiO2: 336
   Physical Examination
   Gen: sedated, NAD
   HEENT: ETT in place
   CV: RR
   Chest: dimished, no wheezes or rales
   Abd: soft NT +BS
   Ext: 1+ edema
   Neuro: eyes open, does not follow commands
   Labs / Radiology
   8.9 g/dL
   279 K/uL
   93 mg/dL
   0.9 mg/dL
   31 mEq/L
   3.8 mEq/L
   11 mg/dL
   108 mEq/L
   144 mEq/L
   27.3 %
   7.4 K/uL
        [image002.jpg]
                            [**2197-11-16**]  06:28 PM
                            [**2197-11-17**]  05:00 AM
                            [**2197-11-17**]  05:21 AM
                            [**2197-11-17**]  01:12 PM
                            [**2197-11-17**]  04:43 PM
                            [**2197-11-17**]  05:07 PM
                            [**2197-11-17**]  07:40 PM
                            [**2197-11-17**]  09:22 PM
                            [**2197-11-18**]  02:50 AM
                            [**2197-11-18**]  03:20 AM
   WBC
   6.4
   7.4
   Hct
   28.3
   27.3
   Plt
   272
   279
   Cr
   0.9
   1.0
   0.9
   TCO2
   38
   40
   40
   39
   41
   34
   31
   Glucose
   115
   107
   105
   93
   Other labs: PT / PTT / INR:14.0/38.4/1.2, CK / CKMB /
   Troponin-T:209/7/0.03, ALT / AST:31/47, Alk Phos / T Bili:44/1.6,
   Differential-Neuts:85.9 %, Lymph:9.7 %, Mono:4.1 %, Eos:0.3 %,
   Fibrinogen:397 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.2 g/dL, LDH:256
   IU/L, Ca++:7.5 mg/dL, Mg++:2.1 mg/dL, PO4:2.8 mg/dL
   CXR:
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   89 yo female admit initially with sepsis who now has continued and
   prolonged course of ventilatory failure.  She has barriers to
   extubation of neuromuscular weakness and chronic obstructive [**Known lastname **]
   disease leading to increased dead space ventilation.  With decrease in
   her levels of pressure support her tidal volume decreases quite quickly
   and her dead space ventilation is substantially increased leading to
   hypercarbia and persistent ventilatory failure. This is a challenging
   balance and would suggest that this prolonged course of ventilatory
   failure may be most readily assessed and managed over a prolonged
   period with chronic support with tracheostomy with maximal safety in
   weaning.
   1) Respiratory Failure-Given the patients improved mental status
   yesterday
 she was given another attempt at extubation but failed even
   with NIPPV. Likely a combination of pulm edema, weakness, high dead
   space. Tracheostomy now  next logical move. Spoke with son and dtr and
   they will discuss further but are leaning towards trach.
   -Continue with PSV to continue 15/5, FIO2=0.4
   2)Sepsis- Hypotensive overnight after reintubation which has been fluid
   responsive. Will pan culture, potential sources are [**Last Name (LF) 2643**], [**First Name3 (LF) **], VAP.
   -Continue with Vanco/Zosyn
   -C. Diff negative x3
   3)Volume Overload
 worse after reintubation with volume resuscitation
   but oxygenation stable and at present bo
   Switch NG to OGT
   ICU Care
   Nutrition: Fibersource HN (Full) - [**2197-11-18**] 05:00 AM 10 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2197-11-9**] 05:10 PM
   Multi Lumen - [**2197-11-9**] 05:53 PM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: PPI
   Communication:  with son and dtr at bedside today x 15 minutes re trach
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill
   Addendum: pt remined with BP in 7-80/40
s range and HR was in 40-50s.
   Started low dose dopa and SBP have improved to 90/60
 watching UOP. ON
   Vanco, Unasyn, will add 2^nd [**Doctor Last Name **] for GNR if she spikes.
   20 min crit care
   Crit Care 60 min total

2197-11-19 06:25:00 Physician Resident Progress Note
Chief Complaint: hypotension, respiratory failure
   24 Hour Events:
     * Hypotensive w/maps in 40's, 50's. B/c given 4L fluid yesterday and
       patient fluid overloaded today (and patient only minimally
       fluid-responsive), patient started on dopamine and pressures
       improved.
     * checked UA, UCx, BCx, sputum
   Allergies:
   No Known Drug Allergies
   Antibiotics:
   Vancomycin
   Ampicillin/Sulbactam (Unasyn) -
   Gentamycin
   Infusions:
   Dopamine - 4 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2197-11-19**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Unable to obtain
   Flowsheet Data as of  [**2197-11-19**] 06:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.8
C (98.2
   HR: 64 (50 - 74) bpm
   BP: 108/44(62) {71/30(44) - 186/165(173)} mmHg
   RR: 22 (12 - 33) insp/min
   SpO2: 99%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 60 kg (admission): 49.5 kg
   Height: 60 Inch
    CVP: 10 (10 - 15)mmHg
   CO/CI (Fick): (7.5 L/min) / (5.2 L/min/m2)
   Mixed Venous O2% Sat: 80 - 80
   Total In:
                                                                  7,252 mL
                                                                  1,368 mL
   PO:
   TF:
                                                                    357 mL
                                                                    257 mL
   IVF:
                                                                  4,990 mL
                                                                    212 mL
   Blood products:
   Total out:
                                                                  1,554 mL
                                                                    210 mL
   Urine:
                                                                  1,554 mL
                                                                    210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,698 mL
                                                                  1,158 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 311 (300 - 383) mL
   PS : 15 cmH2O
   RR (Set): 18
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 139
   PIP: 21 cmH2O
   Plateau: 20 cmH2O
   Compliance: 26.7 cmH2O/mL
   SpO2: 99%
   ABG: 7.39/48/114/29/3 (5am)
   Ve: 7.6 L/min
   PaO2 / FiO2: 285
   Physical Examination
   General Appearance: Thin with temporal wasting.  Asleep but rousable
   and alert, does not follow commands.
   Eyes / Conjunctiva: PERRL.
   Head, Ears, Nose, Throat: Normocephalic, chewing on Endotracheal tube,
   OG tube
   Cardiovascular: PMI Normal,nl S1 and S2, with no MRG.
   Peripheral Vascular: warm extremities
   Respiratory / Chest: (Expansion: Symmetric) crackles throughout
   Abdominal: Soft, Non-tender, Non-distended, Bowel sounds present
   Musculoskeletal: Muscle wasting
   Skin:  warm
   Neurologic: Responds to: voice, Movement: Non -purposeful, no longer
   sedated
   Labs / Radiology
   319 K/uL
   8.9 g/dL
   114 mg/dL
   0.9 mg/dL
   29 mEq/L
   3.7 mEq/L
   12 mg/dL
   105 mEq/L
   137 mEq/L
   26.9 %
   5.9 K/uL
        [image002.jpg]
                            [**2197-11-17**]  04:43 PM
                            [**2197-11-17**]  05:07 PM
                            [**2197-11-17**]  07:40 PM
                            [**2197-11-17**]  09:22 PM
                            [**2197-11-18**]  02:50 AM
                            [**2197-11-18**]  03:20 AM
                            [**2197-11-18**]  01:15 PM
                            [**2197-11-18**]  01:29 PM
                            [**2197-11-19**]  05:15 AM
                            [**2197-11-19**]  05:21 AM
   WBC
   7.4
   5.4
   5.9
   Hct
   27.3
   26.9
   26.9
   Plt
   279
   298
   319
   Cr
   1.0
   0.9
   1.0
   0.9
   TropT
   0.04
   TCO2
   39
   41
   34
   31
   33
   30
   Glucose
   105
   93
   90
   114
   Other labs:
   UA ([**11-18**]) positive: [**6-13**] RBC, >50 WBC, few bacteria
   Sputum GS: >25 PMNs, +2 GNR
   Cdiff negative
   CXR: b/l pleural effusions, atelectasis
   Assessment and Plan
   A/P: 89 yo with PMH of alzheimer's dementia, hypernatremia, UTI
   presents with AMS, sepsis physiology, UTI, and impressive
   hypernatremia, initially intubated, extubated and re-intubated X 2 for
   worsening acidosis, hypercarbia, ? flash pulmonary edema.
   Now w/hypotension on pressors,  pyuria, and GNR in sputum.
   .
   # Hypotension: Was initially responsive to fluid boluses; pt received
   4L NS overnight from [**Date range (1) 6504**] with good urine output but throughout
   the day on the 15^th was persistently hypotensive and required dopamine
   (concern for increasing fluid load as patient develops pulmonary
   edema)  To note, baseline BP seems to be low, and MAPs in 55-60 range
   still result in good urine output.  Thought likely secondary to
   medications surrounding intubation, but b/c of persistent hypotension
   requiring dopamine, patient was pan cultured and a repeat CXR was
   ordered.  UA showed pyuria and sputum showed GNR. Likely hypotension is
   due to urosepsis vs sepsis from pna.
   - add G- antibiotic coverage w/gentamycin until sensitivities and
   cultures from urine and sputum are resulted
   - try to wean dopamine
   - goal MAP>55 in pt with normal urine output
   - continue to follow cultures
   .
   # Sepsis: Initially with fever, hypotension, hypoxia.  Urine grew out
   pan sensitive proteus mirabilis, sputum growing MRSA.  BCx from [**11-9**]
   (day of admission) are negative.  Stool tests for C. diff negative x 3
   & flagyl stopped [**11-15**]. Now on Day 9 of Vanco, Day 7 of Unasyn.
   - Continue Vanc/Unasyn for MRSA in sputum and Proteus in urine
   - Gentamycin started as described above
   - Surv BCx
   - examine IJ site for signs of infection
   .
   # Respiratory failure: hypoxia and hypercarbia.  Initially felt to be
   due to volume overload from fluid resuscitation and possible pneumonia
   with pleural effusions.  Failed several SBTs with high RSBIs and
   acidosis.  Patient with slightly hyperinflated [**Known lastname **]s and CO2 retention
   without acidosis on admission. No Hx of COPD given but may be
   undiagnosed thus far.   NIF poor at 16 with large amount of dead space
   ventilation (70% on PSV).  Difficulty of weaning from the vent likely a
   mix of decreased respiratory muscle strength combined with underlying
   intrinsic [**Known lastname **] disease.  Pt has now failed re-intubation twice.
   -          HCP would like tracheostomy
   -          To consult for tracheostomy placement next week, once septic
   shock has resolved
   # AMS: likely [**2-4**] toxic/metabolic, though other etiologies could
   include stroke, and underlying dementia.  During the interval time
   between extubation and re-intubation, her mental status appeared to the
   family to be near baseline.
   - Will speak to family in order to outline pt
s baseline mental status
   once patient has tracheostomy and can better communicate.
   - Again, consider imaging if no improvement toward baseline.
   .
   # Bradycardia: not new
 old records show ekg w/nsr at 65 w/1^st degree
   AV block 3 years ago.
   - Initially EP commented that her rhythm could be a variation of normal
   or tied to her underlying illness and recommended treating her sepsis
   and re-evaluating once she has recovered or becomes unstable.
   -If patient drops HR <40, EKG
   -Tx hypotension fluids, then with dopamine or atropine
   # Hypernatremia: likely from extreme dehydration.  Now slightly
   hypernatremic.
   - decrease free water boluses to 250 q 6 hours, consider reducing if
   becomes hyponatremic
   # Paroxysmal afib:
   - Confirm not an anticoagulation candidate
   .
   # Alzheimer's: cont home meds
   .
   # PPx: H2 blocker, sc heparin, bowel regimen
   .
   # FEN: Tolerating TF at goal; check lytes in AM
   .
   # Code: full code.  Discussed with patient
s son [**Name (NI) 6287**] who wants
everything done
 including reintubation if patient fails extubation.
   .
   # Dispo: ICU level care)
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2197-11-18**] 05:00 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2197-11-9**] 05:10 PM
   Multi Lumen - [**2197-11-9**] 05:53 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2197-11-19 09:46:00 Physician Attending Progress Note
Chief Complaint: resp failure, shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2197-11-18**] 01:15 PM
 URINE CULTURE - At [**2197-11-18**] 02:16 PM
 URINE CULTURE - At [**2197-11-19**] 01:14 AM
 BLOOD CULTURED - At [**2197-11-19**] 01:14 AM
   Started on dopamine for hypotension to good effect
   + UA given a dose of Gent
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2197-11-18**] 01:32 PM
   Vancomycin - [**2197-11-19**] 07:43 AM
   Ampicillin - [**2197-11-19**] 08:48 AM
   Infusions:
   Dopamine - 4 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2197-11-19**] 08:23 AM
   Ranitidine (Prophylaxis) - [**2197-11-19**] 08:23 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Dyspnea
   Flowsheet Data as of  [**2197-11-19**] 09:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.2
C (97.2
   HR: 63 (54 - 74) bpm
   BP: 119/53(74) {71/30(44) - 186/165(173)} mmHg
   RR: 24 (12 - 33) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 60 kg (admission): 49.5 kg
   Height: 60 Inch
   CVP: 5 (5 - 12)mmHg
   CO/CI (Fick): (7.5 L/min) / (5.2 L/min/m2)
   Mixed Venous O2% Sat: 80 - 80
                                Total In:
                                                                  7,252 mL
                                                                  1,898 mL
   PO:
                                TF:
                                                                    357 mL
                                                                    399 mL
   IVF:
                                                                  4,990 mL
                                                                    569 mL
   Blood products:
   Total out:
                                                                  1,554 mL
                                                                    360 mL
   Urine:
                                                                  1,554 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,698 mL
                                                                  1,538 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 341 (300 - 383) mL
   PS : 15 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 139
   PIP: 20 cmH2O
   SpO2: 100%
   ABG: 7.39/48/114/29/3
   Ve: 7.5 L/min
   PaO2 / FiO2: 285
   Physical Examination
    Gen: elderly women, lying in bed, sedated, opens eyes to tactile stim
   HEENT: ETT OGT
   CV: brady RR
   Chest: coase breath sounds bilat no wheezes
   Abd: soft NT =BS
   Ext no edema
   Labs / Radiology
   8.9 g/dL
   319 K/uL
   114 mg/dL
   0.9 mg/dL
   29 mEq/L
   3.7 mEq/L
   12 mg/dL
   105 mEq/L
   137 mEq/L
   26.9 %
   5.9 K/uL
         [image002.jpg]
                            [**2197-11-17**]  04:43 PM
                            [**2197-11-17**]  05:07 PM
                            [**2197-11-17**]  07:40 PM
                            [**2197-11-17**]  09:22 PM
                            [**2197-11-18**]  02:50 AM
                            [**2197-11-18**]  03:20 AM
                            [**2197-11-18**]  01:15 PM
                            [**2197-11-18**]  01:29 PM
                            [**2197-11-19**]  05:15 AM
                            [**2197-11-19**]  05:21 AM
   WBC
   7.4
   5.4
   5.9
   Hct
   27.3
   26.9
   26.9
   Plt
   279
   298
   319
   Cr
   1.0
   0.9
   1.0
   0.9
   TropT
   0.04
   TCO2
   39
   41
   34
   31
   33
   30
   Glucose
   105
   93
   90
   114
   Other labs: PT / PTT / INR:13.5/38.9/1.2, CK / CKMB /
   Troponin-T:78/7/0.04, ALT / AST:31/47, Alk Phos / T Bili:44/1.6,
   Differential-Neuts:85.9 %, Lymph:9.7 %, Mono:4.1 %, Eos:0.3 %,
   Fibrinogen:397 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.2 g/dL, LDH:256
   IU/L, Ca++:7.7 mg/dL, Mg++:2.2 mg/dL, PO4:2.5 mg/dL
   Micro UA > 50 WBC, cultyure pending
              Sputum: 2+ GNR, cx pending
   CXR
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 EDEMA, PERIPHERAL
 DIARRHEA
 HYPOKALEMIA (LOW POTASSIUM, HYPOPOTASSEMIA)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   89 yo female admit initially with sepsis who now has continued and
   prolonged course of ventilatory failure.  She has barriers to
   extubation of neuromuscular weakness and chronic obstructive [**Known lastname **]
   disease leading to increased dead space ventilation.  With decrease in
   her levels of pressure support her tidal volume decreases quite quickly
   and her dead space ventilation is substantially increased leading to
   hypercarbia and persistent ventilatory failure. This is a challenging
   balance and would suggest that this prolonged course of ventilatory
   failure may be most readily assessed and managed over a prolonged
   period with chronic support with tracheostomy with maximal safety in
   weaning.
   1) Respiratory Failure-Failed extubation x2. Tracheostomy now next
   logical move. Spoke with son and dtr and they will discuss further but
   are leaning towards trach. Consult IP or thoracics in AM. Continue with
   PSV to continue 15/5, FIO2=0.4
 could try to wean PSV to 12 over
   course of afternoon.
   2)Sepsis- Shock
 now vasopressor requiring -  DDX urosepsis VAP line
   sepsis - + UA and new GNR in sputum.  Convert to with Vanco/Zosyn/Gent
 follow up cultures
 no pos cx yet so OK to keep CVL for now.
   -C. Diff negative x3
   3)Volume Overload
 worse after reintubation with volume resuscitation
   but oxygenation stable and at present and cannot be diuresed in need of
   vasopressor support.
   Remianing issues as per housestaff notes
   ICU Care
   Nutrition:  Fibersource HN (Full) - [**2197-11-18**] 05:00 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2197-11-9**] 05:10 PM
   Multi Lumen - [**2197-11-9**] 05:53 PM
   Prophylaxis:
   DVT: SC hep
   Stress ulcer: PPI
   VAP: chlor, HOB
   Communication:  with son and daughter
   [**Name (NI) 66**] status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2197-11-20 05:44:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - dopamine continued until 830 AM, then d/c
   -GNRs in her sputum
   -Urine with leukocyte esterase, >50 WBCs, Foley changed
   - Cipro & Unasyn stopped; Gent & Zosyn started, concern for VAP
   - Gent peak & trough ordered
   - To do: consult IP for trach & PEG
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2197-11-18**] 01:32 PM
   Vancomycin - [**2197-11-19**] 07:43 AM
   Ampicillin - [**2197-11-19**] 08:48 AM
   Gentamicin - [**2197-11-19**] 10:27 AM
   Piperacillin/Tazobactam (Zosyn) - [**2197-11-19**] 08:00 PM
   Infusions:
   Dopamine - 2.5 mcg/Kg/min
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2197-11-19**] 08:23 AM
   Heparin Sodium (Prophylaxis) - [**2197-11-20**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-11-20**] 05:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.2
C (97.1
   HR: 62 (52 - 68) bpm
   BP: 136/52(79) {87/40(57) - 152/85(100)} mmHg
   RR: 40 (18 - 40) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 60 kg (admission): 49.5 kg
   Height: 60 Inch
    CVP: 16 (1 - 16)mmHg
   Total In:
                                                                  3,762 mL
                                                                    594 mL
   PO:
   TF:
                                                                  1,041 mL
                                                                    256 mL
   IVF:
                                                                    951 mL
                                                                     88 mL
   Blood products:
   Total out:
                                                                    677 mL
                                                                    290 mL
   Urine:
                                                                    677 mL
                                                                    290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,085 mL
                                                                    304 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 269 (269 - 341) mL
   PS : 15 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 214
   PIP: 21 cmH2O
   SpO2: 99%
   ABG: ///27/
   Ve: 6.4 L/min
   Physical Examination
   General Appearance: Thin with temporal wasting.  Asleep but arousable,
   does not follow commands.
   Eyes / Conjunctiva: PERRL.
   Head, Ears, Nose, Throat: Normocephalic, chewing on Endotracheal tube,
   OG tube
   Cardiovascular: PMI Normal,nl S1 and S2, with no MRG.
   Peripheral Vascular: warm extremities
   Respiratory / Chest: (Expansion: Symmetric) crackles throughout.
   Coarse breath sounds bilateraly
   Abdominal: Soft, Non-tender, Non-distended, Bowel sounds present
   Musculoskeletal: Muscle wasting
   Ext:  cool, but 2+ DP pulses bilaterally.
   Neurologic: Responds to: voice, Movement: Non -purposeful, no longer
   sedated
   Labs / Radiology
   303 K/uL
   8.8 g/dL
   144 mg/dL
   0.8 mg/dL
   27 mEq/L
   4.2 mEq/L
   15 mg/dL
   104 mEq/L
   136 mEq/L
   26.0 %
   5.7 K/uL
        [image002.jpg]
   U/A [**11-19**]- [**6-13**] RBCs, >50 WBCs, +leukocyte esterase
   Sputum Gram stain- 2+ GNRs
                            [**2197-11-17**]  05:07 PM
                            [**2197-11-17**]  07:40 PM
                            [**2197-11-17**]  09:22 PM
                            [**2197-11-18**]  02:50 AM
                            [**2197-11-18**]  03:20 AM
                            [**2197-11-18**]  01:15 PM
                            [**2197-11-18**]  01:29 PM
                            [**2197-11-19**]  05:15 AM
                            [**2197-11-19**]  05:21 AM
                            [**2197-11-20**]  03:12 AM
   WBC
   7.4
   5.4
   5.9
   5.7
   Hct
   27.3
   26.9
   26.9
   26.0
   Plt
   279
   298
   319
   303
   Cr
   0.9
   1.0
   0.9
   0.8
   TropT
   0.04
   TCO2
   39
   41
   34
   31
   33
   30
   Glucose
   93
   90
   114
   144
   Other labs: PT / PTT / INR:13.5/38.9/1.2, CK / CKMB /
   Troponin-T:78/7/0.04, ALT / AST:31/47, Alk Phos / T Bili:44/1.6,
   Differential-Neuts:85.9 %, Lymph:9.7 %, Mono:4.1 %, Eos:0.3 %,
   Fibrinogen:397 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.2 g/dL, LDH:256
   IU/L, Ca++:7.5 mg/dL, Mg++:2.3 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   A/P: 89 yo with PMH of alzheimer's dementia, hypernatremia, UTI
   presents with AMS, sepsis physiology, UTI, and impressive
   hypernatremia, initially intubated, extubated and re-intubated X 2 for
   worsening acidosis, hypercarbia, ? flash pulmonary edema.
   D/c
d pressors today, but with pyuria, recent MRSA in sputum, and now
   GNR in sputum.
   # Respiratory failure: Had hypercarbic respiratory failure.  Initially
   felt to be due to volume overload from fluid resuscitation and possible
   pneumonia with pleural effusions.  Failed several SBTs with high RSBIs
   and acidosis.  Patient with slightly hyperinflated [**Known lastname **]s and CO2
   retention without acidosis on admission. No Hx of COPD given but may be
   undiagnosed thus far.   NIF poor at 16 with large amount of dead space
   ventilation (70% on PSV).  Difficulty of weaning from the vent likely a
   mix of decreased respiratory muscle strength combined with underlying
   intrinsic [**Known lastname **] disease.  Pt has now failed re-intubation twice.
   -          HCP would like tracheostomy
   -          To consult for tracheostomy placement next week, once septic
   shock has resolved
   .
   # Hypotension: Was initially responsive to fluid boluses; pt received
   4L NS overnight from [**Date range (1) 6504**] with good urine output but throughout
   the day on the 15^th was persistently hypotensive and required dopamine
   (concern for increasing fluid load as patient develops pulmonary
   edema).  To note, baseline BP seems to be low, and MAPs in 55-60 range
   still result in good urine output.  Thought likely secondary to
   medications surrounding intubation, but b/c of persistent hypotension
   requiring dopamine, patient was pan cultured and a repeat CXR was
   ordered.  UA showed pyuria and sputum showed GNR. Likely hypotension is
   due to urosepsis vs sepsis from pna.
   - add G- antibiotic coverage w/gentamycin until sensitivities and
   cultures from urine and sputum are resulted
   - try to wean dopamine
   - goal MAP>55 in pt with normal urine output
   - continue to follow cultures
   .
   # Sepsis: Initially with fever, hypotension, hypoxia.  Urine grew out
   pan sensitive proteus mirabilis, sputum growing MRSA.  BCx from [**11-9**]
   (day of admission) are negative.  Stool tests for C. diff negative x 3
   & flagyl stopped [**11-15**]. Now on Day 9 of Vanco, Day 7 of Unasyn.
   - Continue Vanc/Unasyn for MRSA in sputum and Proteus in urine
   - Gentamycin started as described above
   - Surv BCx
   - examine IJ site for signs of infection
   .
   # AMS: likely [**2-4**] toxic/metabolic, though other etiologies could
   include stroke, and underlying dementia.  During the interval time
   between extubation and re-intubation, her mental status appeared to the
   family to be near baseline.
   - Will speak to family in order to outline pt
s baseline mental status
   once patient has tracheostomy and can better communicate.
   - Again, consider imaging if no improvement toward baseline.
   .
   # Bradycardia: not new
 old records show ekg w/nsr at 65 w/1^st degree
   AV block 3 years ago.
   - Initially EP commented that her rhythm could be a variation of normal
   or tied to her underlying illness and recommended treating her sepsis
   and re-evaluating once she has recovered or becomes unstable.
   -If patient drops HR <40, EKG
   -Tx hypotension fluids, then with dopamine or atropine
   # Hypernatremia: likely from extreme dehydration.  Now slightly
   hypernatremic.
   - decrease free water boluses to 250 q 6 hours, consider reducing if
   becomes hyponatremic
   # Paroxysmal afib:
   - Confirm not an anticoagulation candidate
   .
   # Alzheimer's: cont home meds
   .
   # PPx: H2 blocker, sc heparin, bowel regimen
   .
   # FEN: Tolerating TF at goal; check lytes in AM
   .
   # Code: full code.  Discussed with patient
s son [**Name (NI) 6287**] who wants
everything done
 including reintubation if patient fails extubation.
   .
   # Dispo: ICU level care)
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2197-11-19**] 02:57 PM 45 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2197-11-9**] 05:10 PM
   Multi Lumen - [**2197-11-9**] 05:53 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2197-11-20 10:13:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Patient with evolution of signficiant hypotension over [**2197-11-18**]
   refractory to IVF and requiring initiation of pressors and with CVP
   stabilized have been able to discontinue dopamine this morning
   Patient re-intubated with hypercarbic respiratory failure in the
   setting of evolution of significant sepsis
                                       History obtained from Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2197-11-18**] 01:32 PM
   Ampicillin - [**2197-11-19**] 08:48 AM
   Gentamicin - [**2197-11-19**] 10:27 AM
   Piperacillin/Tazobactam (Zosyn) - [**2197-11-20**] 08:00 AM
   Vancomycin - [**2197-11-20**] 08:25 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2197-11-20**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: Tube feeds
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2197-11-20**] 10:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 75 (52 - 75) bpm
   BP: 170/63(101) {87/41(59) - 170/64(101)} mmHg
   RR: 32 (18 - 43) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 60 kg (admission): 49.5 kg
   Height: 60 Inch
   CVP: 10 (10 - 15)mmHg
   Total In:
                                                                  3,762 mL
                                                                  1,136 mL
   PO:
   TF:
                                                                  1,041 mL
                                                                    443 mL
   IVF:
                                                                    951 mL
                                                                    443 mL
   Blood products:
   Total out:
                                                                    677 mL
                                                                    585 mL
   Urine:
                                                                    677 mL
                                                                    585 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,085 mL
                                                                    552 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 279 (269 - 339) mL
   PS : 15 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 214
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: ///27/
   Ve: 7 L/min
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: , Rhonchorous: )
   Abdominal: Soft, Non-tender
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed,
   Sedated, Tone: Not assessed
   Labs / Radiology
   8.8 g/dL
   303 K/uL
   144 mg/dL
   0.8 mg/dL
   27 mEq/L
   4.2 mEq/L
   15 mg/dL
   104 mEq/L
   136 mEq/L
   26.0 %
   5.7 K/uL
        [image002.jpg]
                            [**2197-11-17**]  05:07 PM
                            [**2197-11-17**]  07:40 PM
                            [**2197-11-17**]  09:22 PM
                            [**2197-11-18**]  02:50 AM
                            [**2197-11-18**]  03:20 AM
                            [**2197-11-18**]  01:15 PM
                            [**2197-11-18**]  01:29 PM
                            [**2197-11-19**]  05:15 AM
                            [**2197-11-19**]  05:21 AM
                            [**2197-11-20**]  03:12 AM
   WBC
   7.4
   5.4
   5.9
   5.7
   Hct
   27.3
   26.9
   26.9
   26.0
   Plt
   279
   298
   319
   303
   Cr
   0.9
   1.0
   0.9
   0.8
   TropT
   0.04
   TCO2
   39
   41
   34
   31
   33
   30
   Glucose
   93
   90
   114
   144
   Other labs: PT / PTT / INR:13.5/38.9/1.2, CK / CKMB /
   Troponin-T:78/7/0.04, ALT / AST:31/47, Alk Phos / T Bili:44/1.6,
   Differential-Neuts:85.9 %, Lymph:9.7 %, Mono:4.1 %, Eos:0.3 %,
   Fibrinogen:397 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.2 g/dL, LDH:256
   IU/L, Ca++:7.5 mg/dL, Mg++:2.3 mg/dL, PO4:2.3 mg/dL
   Fluid analysis / Other labs: 7.39/48/114--ABG yesterday
   Imaging: CXR-[**2197-11-20**]--
   ETT at 5.5cm above carina
   Bilateral effusions without change from [**11-18**]
   CVL in to RA
   OGT past diaphragm
   Suggestion of left lower lobe infiltrate/collapse
   Assessment and Plan
   89 yo female with initial admission with sepsis from likely urinary
   source now with recurrent respiratory failure despite the optimization
   of her volume status and then trial of extubation in the setting of
   increased Vd/Vt and weakness with NIF > -20.  She had been trialed on
   BIPAP via mask with some capacity to support off ventilator but his was
   only for a brief period of time.  Over the weekend she evolved
   recurrent and persistent hypotension consistend with sepsis and with
   likely pulmonary source patient did required re-intubation with
   possible VAP as source for decline.  This does appear to be
   substantially more significant than just persistence of her background
   [**Known lastname **] disease and concern for infection with pneumonia is significant.
   She now has failed extubation x2 despite maximal efforts to optimize
   her chances for success.
   Sepsis-Again, is likley recurrent sepsis in the setting of ventilatory
   associated pneumonia.  This may have been a combination of underlying
   [**Known lastname **] disease and hypovolemia and autopeep contributing to acute
   hypotension but persistent insult requiring pressors may well be
   related to recurrent sepsis.
   Zosyn/Gentamycin
   Dopamine off
   Lasix gtt held and will hold on diuresis clearly
   -Will need 10 day course for antibiotics
   Respiratory Failure-Sources as described above
   -PSV today
   -Treat Pneumonia-_Vanco/Zosyn
   -Will need continued support with tracheostomy given weakness, COPD and
   recurrent respiratory failure
   Additional notes as described in housestaff notes of this day
 IMPAIRED SKIN INTEGRITY
 EDEMA, PERIPHERAL
 DIARRHEA
 HYPOKALEMIA (LOW POTASSIUM, HYPOPOTASSEMIA)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   ICU Care
   Nutrition: Will need PEG tube placement for long term support
   Fibersource HN (Full) - [**2197-11-19**] 02:57 PM 45 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2197-11-9**] 05:10 PM
   Multi Lumen - [**2197-11-9**] 05:53 PM
   Prophylaxis:
   DVT:
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2197-11-20 18:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Dopamine continued until this AM, when d/c'd
   -2+ GNRs in most recent sputum Gram stain, MRSA in the path
   -Cipro and Unasyn stopped, gent and Zosyn started with concern for VAP
   -Awaiting IP consult for trach and PEG.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2197-11-18**] 01:32 PM
   Ampicillin - [**2197-11-19**] 08:48 AM
   Vancomycin - [**2197-11-20**] 08:25 AM
   Gentamicin - [**2197-11-20**] 10:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2197-11-20**] 02:00 PM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2197-11-20**] 03:10 PM
   Heparin Sodium (Prophylaxis) - [**2197-11-20**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-11-20**] 06:14 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.1
C (97
   HR: 60 (54 - 82) bpm
   BP: 127/45(71) {87/42(62) - 195/76(111)} mmHg
   RR: 23 (18 - 43) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 60 kg (admission): 49.5 kg
   Height: 60 Inch
    CVP: 9 (8 - 16)mmHg
   Total In:
                                                                  3,819 mL
                                                                  2,219 mL
   PO:
   TF:
                                                                  1,080 mL
                                                                    863 mL
   IVF:
                                                                    969 mL
                                                                    647 mL
   Blood products:
   Total out:
                                                                    677 mL
                                                                  1,120 mL
   Urine:
                                                                    677 mL
                                                                  1,120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,142 mL
                                                                  1,099 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 278 (265 - 339) mL
   PS : 15 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 214
   PIP: 21 cmH2O
   SpO2: 99%
   ABG: ///27/
   Ve: 6.3 L/min
   Physical Examination
   General Appearance: Thin with temporal wasting.  Asleep but arousable
   and alert, does not follow commands.
   Eyes / Conjunctiva: PERRL.
   Head, Ears, Nose, Throat: Normocephalic, chewing on Endotracheal tube,
   OG tube
   Cardiovascular: PMI Normal,nl S1 and S2, with no MRG.
   Peripheral Vascular: warm extremities
   Respiratory / Chest: (Expansion: Symmetric) crackles throughout .
   Coarse breath sounds bilaterally
   Abdominal: Soft, Non-tender, Non-distended, Bowel sounds present.  No
   rebound or guarding.
   Ext: Muscle wasting, cool, but 2+ pulses.  No clubbing/cyanosis/edema
   Neurologic: Responds to: voice, Movement: Non -purposeful, no longer
   sedated
   Labs / Radiology
   303 K/uL
   8.8 g/dL
   144 mg/dL
   0.8 mg/dL
   27 mEq/L
   4.2 mEq/L
   15 mg/dL
   104 mEq/L
   136 mEq/L
   26.0 %
   5.7 K/uL
        [image002.jpg]
   Micro- [**11-19**]- [**6-13**] RBCs, >50 WBCs, +leuk esterase
   Sputum Gram stain [**11-18**]- 2+ GNRs
                            [**2197-11-17**]  05:07 PM
                            [**2197-11-17**]  07:40 PM
                            [**2197-11-17**]  09:22 PM
                            [**2197-11-18**]  02:50 AM
                            [**2197-11-18**]  03:20 AM
                            [**2197-11-18**]  01:15 PM
                            [**2197-11-18**]  01:29 PM
                            [**2197-11-19**]  05:15 AM
                            [**2197-11-19**]  05:21 AM
                            [**2197-11-20**]  03:12 AM
   WBC
   7.4
   5.4
   5.9
   5.7
   Hct
   27.3
   26.9
   26.9
   26.0
   Plt
   279
   298
   319
   303
   Cr
   0.9
   1.0
   0.9
   0.8
   TropT
   0.04
   TCO2
   39
   41
   34
   31
   33
   30
   Glucose
   93
   90
   114
   144
   Other labs: PT / PTT / INR:13.5/38.9/1.2, CK / CKMB /
   Troponin-T:78/7/0.04, ALT / AST:31/47, Alk Phos / T Bili:44/1.6,
   Differential-Neuts:85.9 %, Lymph:9.7 %, Mono:4.1 %, Eos:0.3 %,
   Fibrinogen:397 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.2 g/dL, LDH:256
   IU/L, Ca++:7.5 mg/dL, Mg++:2.3 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   A/P: 89 yo with PMH of alzheimer's dementia, hypernatremia, UTI
   presents with AMS, sepsis physiology, UTI, and impressive
   hypernatremia, initially intubated, extubated and re-intubated X 2 for
   worsening acidosis, hypercarbia, ? flash pulmonary edema.
   Now off pressors, but with  pyuria, and GNR in sputum.
   # Hypotension: Was initially responsive to fluid boluses; pt received
   4L NS overnight from [**Date range (1) 6504**] with good urine output but throughout
   the day on the 15th was persistently hypotensive and required dopamine
   (concern for increasing fluid load as patient develops pulmonary
   edema)  To note, baseline BP seems to be low, and MAPs in 55-60 range
   still result in good urine output.  Thought likely secondary to
   medications surrounding intubation, but b/c of persistent hypotension
   requiring dopamine, patient was pan cultured and a repeat CXR was
   ordered.  UA showed pyuria and sputum showed GNR. Likely hypotension is
   due to urosepsis vs sepsis from pna.
   - add G- antibiotic coverage w/gentamycin until sensitivities and
   cultures from urine and sputum are resulted
   - try to wean dopamine
   - goal MAP>55 in pt with normal urine output
   - continue to follow cultures
   .
   # Sepsis: Initially with fever, hypotension, hypoxia.  Urine grew out
   pan sensitive proteus mirabilis, sputum growing MRSA.  BCx from [**11-9**]
   (day of admission) are negative.  Stool tests for C. diff negative x 3
   & flagyl stopped [**11-15**]. Now on Day 9 of Vanco, Day 7 of Unasyn.
   - Continue Vanc/Unasyn for MRSA in sputum and Proteus in urine
   - Gentamycin started as described above
   - Surv BCx
   - examine IJ site for signs of infection
   .
   # Respiratory failure: hypoxia and hypercarbia.  Initially felt to be
   due to volume overload from fluid resuscitation and possible pneumonia
   with pleural effusions.  Failed several SBTs with high RSBIs and
   acidosis.  Patient with slightly hyperinflated [**Known lastname **]s and CO2 retention
   without acidosis on admission. No Hx of COPD given but may be
   undiagnosed thus far.   NIF poor at 16 with large amount of dead space
   ventilation (70% on PSV).  Difficulty of weaning from the vent likely a
   mix of decreased respiratory muscle strength combined with underlying
   intrinsic [**Known lastname **] disease.  Pt has now failed re-intubation twice.
   -          HCP would like tracheostomy
   -          To consult for tracheostomy placement next week, once septic
   shock has resolved
   # AMS: likely [**2-4**] toxic/metabolic, though other etiologies could
   include stroke, and underlying dementia.  During the interval time
   between extubation and re-intubation, her mental status appeared to the
   family to be near baseline.
   - Will speak to family in order to outline pt
s baseline mental status
   once patient has tracheostomy and can better communicate.
   - Again, consider imaging if no improvement toward baseline.
   .
   # Bradycardia: not new
 old records show ekg w/nsr at 65 w/1st degree
   AV block 3 years ago.
   - Initially EP commented that her rhythm could be a variation of normal
   or tied to her underlying illness and recommended treating her sepsis
   and re-evaluating once she has recovered or becomes unstable.
   -If patient drops HR <40, EKG
   -Tx hypotension fluids, then with dopamine or atropine
   # Hypernatremia: likely from extreme dehydration.  Now slightly
   hypernatremic.
   - decrease free water boluses to 250 q 6 hours, consider reducing if
   becomes hyponatremic
   # Paroxysmal afib
   - Confirm not an anticoagulation candidate
   # Alzheimer's: cont home meds
   .
   # PPx: H2 blocker, sc heparin, bowel regimen
   .
   # FEN: Tolerating TF at goal; check lytes in AM
   # Code: full code.  Discussed with patient
s son [**Name (NI) 6287**] who wants
everything done
 including reintubation if patient fails extubation.
   .
   # Dispo: ICU level care)
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2197-11-20**] 11:16 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2197-11-9**] 05:10 PM
   Multi Lumen - [**2197-11-9**] 05:53 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2197-11-21 05:39:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2197-11-20**] 11:00 AM
   -D/c'd dopamine yesterday morning
   -Trach/PEG by IP scheduled for Wednesday
   -EP saw her, felt that pacer placement not worth risk
   -D/c'd sedation drips, prn boluses
   -Vanc/gent trough ordered
   -decreased free water boluses
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2197-11-18**] 01:32 PM
   Ampicillin - [**2197-11-19**] 08:48 AM
   Vancomycin - [**2197-11-20**] 08:25 AM
   Gentamicin - [**2197-11-20**] 10:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2197-11-21**] 02:16 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2197-11-20**] 03:10 PM
   Heparin Sodium (Prophylaxis) - [**2197-11-21**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-11-21**] 05:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.3
C (97.4
   HR: 54 (51 - 82) bpm
   BP: 90/43(60) {62/40(51) - 195/76(111)} mmHg
   RR: 22 (19 - 43) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 60 kg (admission): 49.5 kg
   Height: 60 Inch
    CVP: 16 (8 - 16)mmHg
   Total In:
                                                                  2,741 mL
                                                                    667 mL
   PO:
   TF:
                                                                  1,128 mL
                                                                    247 mL
   IVF:
                                                                    843 mL
                                                                    119 mL
   Blood products:
   Total out:
                                                                  1,430 mL
                                                                    210 mL
   Urine:
                                                                  1,430 mL
                                                                    210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,311 mL
                                                                    457 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 279 (265 - 318) mL
   PS : 15 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 21 cmH2O
   SpO2: 99%
   ABG: 7.24/71/101/29/0
   Ve: 6.3 L/min
   PaO2 / FiO2: 253
   Physical Examination
   General Appearance: Thin with temporal wasting.  Asleep but arousable
   and alert, does not follow commands.
   Eyes / Conjunctiva: PERRL.
   Head, Ears, Nose, Throat: Normocephalic, chewing on Endotracheal tube,
   OG tube
   Cardiovascular: PMI Normal,nl S1 and S2, with no MRG.
   Peripheral Vascular: warm extremities
   Respiratory / Chest: (Expansion: Symmetric) crackles throughout .
   Coarse breath sounds bilaterally
   Abdominal: Soft, Non-tender, Non-distended, Bowel sounds present.  No
   rebound or guarding.
   Ext: Muscle wasting, cool, but 2+ pulses.  No clubbing/cyanosis/edema
   Neurologic: Responds to: voice, Movement: Non -purposeful, no longer
   sedated
   Labs / Radiology
   443 K/uL
   10.0 g/dL
   142 mg/dL
   0.8 mg/dL
   29 mEq/L
   4.8 mEq/L
   14 mg/dL
   104 mEq/L
   136 mEq/L
   31.3 %
   9.9 K/uL
        [image002.jpg]
                            [**2197-11-17**]  09:22 PM
                            [**2197-11-18**]  02:50 AM
                            [**2197-11-18**]  03:20 AM
                            [**2197-11-18**]  01:15 PM
                            [**2197-11-18**]  01:29 PM
                            [**2197-11-19**]  05:15 AM
                            [**2197-11-19**]  05:21 AM
                            [**2197-11-20**]  03:12 AM
                            [**2197-11-21**]  04:04 AM
                            [**2197-11-21**]  04:43 AM
   WBC
   7.4
   5.4
   5.9
   5.7
   9.9
   Hct
   27.3
   26.9
   26.9
   26.0
   31.3
   Plt
   279
   298
   319
   303
   443
   Cr
   0.9
   1.0
   0.9
   0.8
   0.8
   TropT
   0.04
   TCO2
   34
   31
   33
   30
   32
   Glucose
   93
   90
   114
   144
   142
   Other labs: PT / PTT / INR:12.3/38.8/1.0, Ca++:8.0 mg/dL, Mg++:2.6
   mg/dL, PO4:2.2 mg/dL
   ABG: 7.41 / 45 / 133; Vanco level 24.3 at 4 am , not true trough;
   lactate 1.6
   Sputum: GNRs ([**11-18**]) not yet speciated.
   Assessment and Plan
   A/P: 89 yo with PMH of alzheimer's dementia, hypernatremia, UTI
   presents with AMS, sepsis physiology, UTI, and impressive
   hypernatremia, initially intubated, extubated and re-intubated X 2 for
   worsening acidosis, hypercarbia, ? flash pulmonary edema.
   Now off pressors, but with  pyuria, and GNR in sputum.
   # Respiratory failure: hypoxia and hypercarbia.  Low NIF and CO2
   retention after latest extubation suggest neuromuscular weakness.
   However, persistent A-a gradient on latest ABG suggests intrinsic [**Known lastname **]
   disease.  Patient has pneumonia, possible obstructive disease given
   respiratory acidosis with metabolic compensation at admission, and is
   now volume overloaded. No Hx of COPD given but may be undiagnosed thus
   far.  Now pt. may have VAP as sputum is growing GNRs, awaiting
   speciation.  Difficulty of weaning from the vent likely a mix of
   decreased of all of these factors.  Pt has now failed re-intubation
   twice.
   - Cont. gent & zosyn for presumed VAP until speciation available.
   - Cont. Vanco for MRSA started on evening of [**11-10**].
   -Trach & PEG on [**11-22**], NPO after midnight for procedure
   -Continue on PSV as tolerated.
   - diurese as permitted by BP
   # Hypotension:  Initially likely hypotension is due to urosepsis vs
   sepsis from pna.  Was initially responsive to fluid boluses; pt
   received 4L NS overnight from [**Date range (1) 6504**] with good urine output but
   throughout the day on the 15th was persistently hypotensive.  This was
   at first assumed to be [**2-4**] sedation administered during re-intubation,
   but hypotension persisted, requiring dopamine.   Of note, baseline BP
   seems to be low, and MAPs in 55-60 range still result in good urine
   output.  Cardiogenic causes also possible, as patient  has some
   electrophysiologic abnormalities, may be unable to mount sufficient
   increased cardiac output to deal with requirements.  EP feels that pt.
   is not a candidate for pacemaker given presumed sepsis.
   - treat infections as above
   - goal MAP>55 in pt with normal urine output
   - continue to follow cultures
   # Sepsis: Patient initially presented with sepsis - fever, hypotension,
   hypoxia.  Urine grew out pan sensitive proteus mirabilis, treated with
   cipro.  Sputum growing MRSA.  Vanco started pm [**11-10**].  Sputum grew
   GNRs, likely VAP.  Cipro and Unasyn d/c
d, begun on gentamicin and
   Zosyn for VAP.   Vanco level this am not true trough.  Will recheck
   tomorrow.
   -Continue Vancomycin for MRSA
   - Gentamicin and Zosyn  started as described above
   -Check gentamicin peak and trough after 4^th dose.  Check vanco trough
   - Surveillance BCx
   - Remove IJ line.
   .
   # AMS: likely [**2-4**] toxic/metabolic, though other etiologies could
   include stroke, and underlying dementia.  During the interval time
   between extubation and re-intubation, her mental status appeared to the
   family to be near baseline.
   - Will speak to family in order to outline pt
s baseline mental status
   once patient has tracheostomy and can better communicate.
   - Again, consider imaging if no improvement toward baseline.
   .
   # Bradycardia: not new
 old records show ekg w/nsr at 65 w/1st degree
   AV block 3 years ago.
   - Initially EP commented that her rhythm could be a variation of normal
   or tied to her underlying illness and recommended treating her sepsis
   and re-evaluating once she has recovered or becomes unstable.
   -EP consult today to consider pacer placement to aid with hypotension.
   -Tx hypotension fluids, then with dopamine or atropine
   # Hypernatremia: likely from extreme dehydration.  Now slightly
   hyponatremic.
   - decrease free water boluses to 100 q 6 hours
   # Paroxysmal afib
   - Not an anticoagulation candidate
   # Alzheimer's: cont home meds
   .
   # PPx: H2 blocker, sc heparin, bowel regimen
   .
   # FEN: Tolerating TF at goal; check lytes in AM
   # Access: Right IJ needs to be removed; request PICC placement.
   # Code: full code.  Discussed with patient
s son [**Name (NI) 6287**] who wants
everything done
 including reintubation if patient fails extubation.
   .
   # Dispo: ICU level care, begin screening for rehab placement after
   trach & PEG.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2197-11-21**] 02:04 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2197-11-9**] 05:10 PM
   Multi Lumen - [**2197-11-9**] 05:53 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2197-11-21 11:31:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2197-11-20**] 11:00 AM
   -Trach and PEG for tomorrow
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2197-11-18**] 01:32 PM
   Ampicillin - [**2197-11-19**] 08:48 AM
   Vancomycin - [**2197-11-20**] 08:25 AM
   Piperacillin/Tazobactam (Zosyn) - [**2197-11-21**] 08:40 AM
   Gentamicin - [**2197-11-21**] 08:41 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2197-11-20**] 03:10 PM
   Heparin Sodium (Prophylaxis) - [**2197-11-21**] 08:40 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Tachypnea
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2197-11-21**] 11:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 46 (43 - 82) bpm
   BP: 85/37(51) {62/37(51) - 195/76(111)} mmHg
   RR: 18 (17 - 36) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 60 kg (admission): 49.5 kg
   Height: 60 Inch
   CVP: 12 (8 - 16)mmHg
   Total In:
                                                                  2,741 mL
                                                                  1,238 mL
   PO:
   TF:
                                                                  1,128 mL
                                                                    510 mL
   IVF:
                                                                    843 mL
                                                                    278 mL
   Blood products:
   Total out:
                                                                  1,430 mL
                                                                    336 mL
   Urine:
                                                                  1,430 mL
                                                                    336 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,311 mL
                                                                    902 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 279 (278 - 318) mL
   PS : 15 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 27 cmH2O
   Plateau: 24 cmH2O
   SpO2: 100%
   ABG: 7.41/45/133/29/3
   Ve: 7 L/min
   PaO2 / FiO2: 332
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: )
   Abdominal: Soft, Non-tender
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.0 g/dL
   443 K/uL
   142 mg/dL
   0.8 mg/dL
   29 mEq/L
   4.8 mEq/L
   14 mg/dL
   104 mEq/L
   136 mEq/L
   31.3 %
   9.9 K/uL
        [image002.jpg]
                            [**2197-11-18**]  03:20 AM
                            [**2197-11-18**]  01:15 PM
                            [**2197-11-18**]  01:29 PM
                            [**2197-11-19**]  05:15 AM
                            [**2197-11-19**]  05:21 AM
                            [**2197-11-20**]  03:12 AM
                            [**2197-11-21**]  04:04 AM
                            [**2197-11-21**]  04:43 AM
                            [**2197-11-21**]  06:06 AM
                            [**2197-11-21**]  09:12 AM
   WBC
   5.4
   5.9
   5.7
   9.9
   Hct
   26.9
   26.9
   26.0
   31.3
   Plt
   298
   319
   303
   443
   Cr
   1.0
   0.9
   0.8
   0.8
   TropT
   0.04
   TCO2
   31
   33
   30
   32
   32
   30
   Glucose
   90
   114
   144
   142
   Other labs: PT / PTT / INR:12.4/38.8/1.0, CK / CKMB /
   Troponin-T:78/7/0.04, ALT / AST:31/47, Alk Phos / T Bili:44/1.6,
   Differential-Neuts:85.9 %, Lymph:9.7 %, Mono:4.1 %, Eos:0.3 %,
   Fibrinogen:397 mg/dL, Lactic Acid:1.6 mmol/L, Albumin:2.2 g/dL, LDH:256
   IU/L, Ca++:8.0 mg/dL, Mg++:2.6 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   89 yo female admit initially with urosepsis and now with persistent
   ventilatory failure despite optimal management of ventilator
   dependence.  This ventilator dependence would appear to be primarily
   attributable to signficiant dead space ventilation with worsening
   tachypnea and rapid shallow breathing in the setting of PSV decrease
   worsening Vd/Vt--IP has raised the possbilitiy of pleural effusion
   contributing as well.
   1)Respiratory Failure-
   -Continue with A/C support today with PSV trials
   -Trach and PEG tomorrow
   -Will need prolonged weaning approach with likely intermittent need for
   ventilatory support
   2)Sepsis--Stabilized from the point of view of active infectino
   -WIll continue with Vanco/Zosyn/Gent for treatment of what may well be
   ventilator associated pneumonia
   -Blood pressure has shown reasonable stability over time
   Additional issues to be addressed as outlined in the housestaff note
   from this date.
 IMPAIRED SKIN INTEGRITY
 EDEMA, PERIPHERAL
 DIARRHEA
 HYPOKALEMIA (LOW POTASSIUM, HYPOPOTASSEMIA)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2197-11-21**] 02:04 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2197-11-9**] 05:10 PM
   Multi Lumen - [**2197-11-9**] 05:53 PM
Will move to PICC placement for long
   term antibiotics
   Prophylaxis:
   DVT:
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
will move to Rehab screening
Trach/PEG and PICC today
   Total time spent: 35 minutes

2197-11-22 06:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
     * Hypotensive, requiring dopamine.
     * for PICC tomorrow, IJ still in
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2197-11-19**] 08:48 AM
   Gentamicin - [**2197-11-21**] 08:41 AM
   Vancomycin - [**2197-11-21**] 12:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2197-11-22**] 01:40 AM
   Infusions:
   Dopamine - 3 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2197-11-22**] 12:17 AM
   Heparin Sodium (Prophylaxis) - [**2197-11-22**] 01:39 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-11-22**] 06:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.5
C (97.7
   HR: 59 (43 - 63) bpm
   BP: 118/43(68) {78/34(51) - 187/42,133(181)} mmHg
   RR: 18 (16 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 60 kg (admission): 49.5 kg
   Height: 60 Inch
    CVP: 303 (11 - 303)mmHg
   Total In:
                                                                  3,329 mL
                                                                    158 mL
   PO:
   TF:
                                                                  1,080 mL
                                                                     10 mL
   IVF:
                                                                  1,250 mL
                                                                    149 mL
   Blood products:
   Total out:
                                                                    689 mL
                                                                    295 mL
   Urine:
                                                                    689 mL
                                                                    295 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,640 mL
                                                                   -137 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 29 cmH2O
   Plateau: 23 cmH2O
   SpO2: 99%
   ABG: 7.41/48/111/30/5
   Ve: 6.7 L/min
   PaO2 / FiO2: 277
   Physical Examination
   General Appearance: Thin with temporal wasting.  Asleep but arousable
   and alert, does not follow commands.
   Eyes / Conjunctiva: PERRL.
   Head, Ears, Nose, Throat: Normocephalic, chewing on Endotracheal tube,
   OG tube
   Cardiovascular: PMI Normal,nl S1 and S2, with no MRG.
   Peripheral Vascular: warm extremities
   Respiratory / Chest: (Expansion: Symmetric) crackles throughout .
   Coarse breath sounds bilaterally
   Abdominal: Soft, Non-tender, Non-distended, Bowel sounds present.  No
   rebound or guarding.
   Ext: Muscle wasting, cool, but 2+ pulses.  No clubbing/cyanosis/edema
   Neurologic: Responds to: voice, Movement: Non -purposeful, no longer
   sedated
   Labs / Radiology
   353 K/uL
   8.8 g/dL
   94 mg/dL
   1.0 mg/dL
   30 mEq/L
   3.9 mEq/L
   16 mg/dL
   104 mEq/L
   136 mEq/L
   25.9 %
   7.1 K/uL
        [image002.jpg]
                            [**2197-11-18**]  01:15 PM
                            [**2197-11-18**]  01:29 PM
                            [**2197-11-19**]  05:15 AM
                            [**2197-11-19**]  05:21 AM
                            [**2197-11-20**]  03:12 AM
                            [**2197-11-21**]  04:04 AM
                            [**2197-11-21**]  04:43 AM
                            [**2197-11-21**]  06:06 AM
                            [**2197-11-21**]  09:12 AM
                            [**2197-11-22**]  03:13 AM
   WBC
   5.4
   5.9
   5.7
   9.9
   7.1
   Hct
   26.9
   26.9
   26.0
   31.3
   25.9
   Plt
   298
   319
   303
   443
   353
   Cr
   1.0
   0.9
   0.8
   0.8
   1.0
   TropT
   0.04
   TCO2
   33
   30
   32
   32
   30
   31
   Glucose
   90
   114
   144
   142
   94
   Other labs: PT / PTT / INR:13.1/37.0/1.1, CK / CKMB /
   Troponin-T:78/7/0.04, ALT / AST:31/47, Alk Phos / T Bili:44/1.6,
   Differential-Neuts:85.9 %, Lymph:9.7 %, Mono:4.1 %, Eos:0.3 %,
   Fibrinogen:397 mg/dL, Lactic Acid:1.6 mmol/L, Albumin:2.2 g/dL, LDH:256
   IU/L, Ca++:7.5 mg/dL, Mg++:2.3 mg/dL, PO4:1.4 mg/dL
   Assessment and Plan
   A/P: 89 yo with PMH of alzheimer's dementia, hypernatremia, UTI
   presents with AMS, sepsis physiology, UTI, and impressive
   hypernatremia, initially intubated, extubated and re-intubated X 2 for
   worsening acidosis, hypercarbia, ? flash pulmonary edema.
   Now off pressors, but with  pyuria, and GNR in sputum.
   # Respiratory failure: hypoxia and hypercarbia.  Low NIF and CO2
   retention after latest extubation suggest neuromuscular weakness.
   However, persistent A-a gradient on latest ABG suggests intrinsic [**Known lastname **]
   disease.  Patient has pneumonia, possible obstructive disease given
   respiratory acidosis with metabolic compensation at admission, and is
   now volume overloaded. No Hx of COPD given but may be undiagnosed thus
   far.  Now pt. may have VAP as sputum is growing GNRs, awaiting
   speciation.  Difficulty of weaning from the vent likely a mix of
   decreased of all of these factors.  Pt has now failed re-intubation
   twice.
   - Cont. gent & zosyn for presumed VAP until speciation available.
   - Cont. Vanco for MRSA started on evening of [**11-10**].
   -Trach & PEG on [**11-22**], NPO after midnight for procedure
   -Continue on PSV as tolerated.
   - diurese as permitted by BP
   # Hypotension:  Initially likely hypotension is due to urosepsis vs
   sepsis from pna.  Was initially responsive to fluid boluses; pt
   received 4L NS overnight from [**Date range (1) 6504**] with good urine output but
   throughout the day on the 15th was persistently hypotensive.  This was
   at first assumed to be [**2-4**] sedation administered during re-intubation,
   but hypotension persisted, requiring dopamine.   Of note, baseline BP
   seems to be low, and MAPs in 55-60 range still result in good urine
   output.  Cardiogenic causes also possible, as patient  has some
   electrophysiologic abnormalities, may be unable to mount sufficient
   increased cardiac output to deal with requirements.  EP feels that pt.
   is not a candidate for pacemaker given presumed sepsis.
   - treat infections as above
   - goal MAP>55 in pt with normal urine output
   - continue to follow cultures
   # Sepsis: Patient initially presented with sepsis - fever, hypotension,
   hypoxia.  Urine grew out pan sensitive proteus mirabilis, treated with
   cipro.  Sputum growing MRSA.  Vanco started pm [**11-10**].  Sputum grew
   GNRs, likely VAP.  Cipro and Unasyn d/c
d, begun on gentamicin and
   Zosyn for VAP.   Vanco level this am not true trough.  Will recheck
   tomorrow.
   -Continue Vancomycin for MRSA
   - Gentamicin and Zosyn  started as described above
   -Check gentamicin peak and trough after 4^th dose.  Check vanco trough
   - Surveillance BCx
   - Remove IJ line.
   .
   # AMS: likely [**2-4**] toxic/metabolic, though other etiologies could
   include stroke, and underlying dementia.  During the interval time
   between extubation and re-intubation, her mental status appeared to the
   family to be near baseline.
   - Will speak to family in order to outline pt
s baseline mental status
   once patient has tracheostomy and can better communicate.
   - Again, consider imaging if no improvement toward baseline.
   .
   # Bradycardia: not new
 old records show ekg w/nsr at 65 w/1st degree
   AV block 3 years ago.
   - Initially EP commented that her rhythm could be a variation of normal
   or tied to her underlying illness and recommended treating her sepsis
   and re-evaluating once she has recovered or becomes unstable.
   -EP consult today to consider pacer placement to aid with hypotension.
   -Tx hypotension fluids, then with dopamine or atropine
   # Hypernatremia: likely from extreme dehydration.  Now slightly
   hyponatremic.
   - decrease free water boluses to 100 q 6 hours
   # Paroxysmal afib
   - Not an anticoagulation candidate
   # Alzheimer's: cont home meds
   .
   # PPx: H2 blocker, sc heparin, bowel regimen
   .
   # FEN: Tolerating TF at goal; check lytes in AM
   # Access: Right IJ needs to be removed; request PICC placement.
   # Code: full code.  Discussed with patient
s son [**Name (NI) 6287**] who wants
everything done
 including reintubation if patient fails extubation.
   .
   # Dispo: ICU level care, begin screening for rehab placement after
   trach & PEG.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2197-11-9**] 05:10 PM
   Multi Lumen - [**2197-11-9**] 05:53 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2197-11-22 11:30:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Patient with trach/peg planned for today
   Patient with hypotension noted yesterday and requiring start of
   Dopamine for support of blood pressure.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gentamicin - [**2197-11-21**] 08:41 AM
   Vancomycin - [**2197-11-21**] 12:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2197-11-22**] 09:16 AM
   Infusions:
   Dopamine - 3 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2197-11-22**] 09:15 AM
   Fentanyl - [**2197-11-22**] 09:16 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: Tube feeds
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: Foley
   Flowsheet Data as of  [**2197-11-22**] 11:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 67 (47 - 67) bpm
   BP: 101/43(63) {78/34(53) - 187/42,133(181)} mmHg
   RR: 22 (16 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 60 kg (admission): 49.5 kg
   Height: 60 Inch
   CVP: 303 (302 - 303)mmHg
   CO/CI (Fick): (6.2 L/min) / (4.3 L/min/m2)
   Mixed Venous O2% Sat: 73 - 73
   Total In:
                                                                  3,329 mL
                                                                    461 mL
   PO:
   TF:
                                                                  1,080 mL
                                                                     10 mL
   IVF:
                                                                  1,250 mL
                                                                    272 mL
   Blood products:
   Total out:
                                                                    689 mL
                                                                    415 mL
   Urine:
                                                                    689 mL
                                                                    415 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,640 mL
                                                                     46 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 30 cmH2O
   Plateau: 24 cmH2O
   Compliance: 21.1 cmH2O/mL
   SpO2: 99%
   ABG: 7.41/48/111/31/5
   Ve: 7.5 L/min
   PaO2 / FiO2: 277
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   360 K/uL
   81 mg/dL
   1.1 mg/dL
   31 mEq/L
   3.8 mEq/L
   16 mg/dL
   103 mEq/L
   136 mEq/L
   25.7 %
   7.0 K/uL
        [image002.jpg]
                            [**2197-11-18**]  01:29 PM
                            [**2197-11-19**]  05:15 AM
                            [**2197-11-19**]  05:21 AM
                            [**2197-11-20**]  03:12 AM
                            [**2197-11-21**]  04:04 AM
                            [**2197-11-21**]  04:43 AM
                            [**2197-11-21**]  06:06 AM
                            [**2197-11-21**]  09:12 AM
                            [**2197-11-22**]  03:13 AM
                            [**2197-11-22**]  07:49 AM
   WBC
   5.9
   5.7
   9.9
   7.1
   7.0
   Hct
   26.9
   26.0
   31.3
   25.9
   25.7
   Plt
   [**Telephone/Fax (3) 6544**]53
   360
   Cr
   0.9
   0.8
   0.8
   1.0
   1.1
   TCO2
   33
   30
   32
   32
   30
   31
   Glucose
   114
   144
   142
   94
   81
   Other labs: PT / PTT / INR:14.0/37.7/1.2, CK / CKMB /
   Troponin-T:78/7/0.04, ALT / AST:31/47, Alk Phos / T Bili:44/1.6,
   Differential-Neuts:85.9 %, Lymph:9.7 %, Mono:4.1 %, Eos:0.3 %,
   Fibrinogen:397 mg/dL, Lactic Acid:1.5 mmol/L, Albumin:2.2 g/dL, LDH:256
   IU/L, Ca++:7.8 mg/dL, Mg++:2.3 mg/dL, PO4:1.3 mg/dL
   Fluid analysis / Other labs: 7.41/48/111
   Imaging: CXR--improved bilateral pulmonary edema and effusions.
   Microbiology: Sputum--Gram NEg Rods on Sputum Culture from [**11-18**].
   Assessment and Plan
   89 yo female with persistent respiratory failure and now with
   intermittent hypotension noted yesterday.  She has now had evolution of
   significant hypotension over the course of yesterday.  This has
   required Dopamine start for support of blood pressure and has had rapid
   stabilization.
   1)Respiratory Failure-Patient with radiographic impression of improving
   pulmonary edema.  She maintains a stable respiratory acidosis with
   metabolic compensation.
   -Trach today
   -Continue to support with PSV and move to rapid wean to trach mask
   trial with trach in place
   -Continue with GNR treatment and will refine based on findings on
   culture results and ID and Sensitivities
   2)Hypotension-This is a likely combination of diruesis, matched poorly
   with persistent bradycardia and with requirement for intermittent
   pressor support.  There is a concern for possible autonomic instability
   in that the paroxysms of hypotension do not have clear trigger or
   significant persistent insult.
   -Check cultures
   -Check ECG-
   -CXR ressuring
   -Will check ECHO for definition of baseline cardiac function
   Additional issues to be addressed as defined in the housestaff notes
   from this date
 IMPAIRED SKIN INTEGRITY
 EDEMA, PERIPHERAL
 DIARRHEA
 HYPOKALEMIA (LOW POTASSIUM, HYPOPOTASSEMIA)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   ICU Care
   Nutrition: Will hold until PEG tube placement stabilized
   Glycemic Control:
   Lines:
   Arterial Line - [**2197-11-9**] 05:10 PM
   Multi Lumen - [**2197-11-9**] 05:53 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2197-11-23 05:17:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2197-11-22**] 01:00 PM
 ARTERIAL LINE - STOP [**2197-11-22**] 01:49 PM
 MULTI LUMEN - STOP [**2197-11-22**] 08:04 PM
   - ECHO - LVEF >55%, nl biventricular systolic fxn, trace AR, mild MR,
   mild [**Last Name (un) 469**]
   - Trach & PEG placed
   - PICC placed
   - weaned dopa
   - pm hct stable
   - gent level 1.2, 3.6
   - CM contactted re dispo
   - cortisol check this am
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gentamicin - [**2197-11-21**] 08:41 AM
   Vancomycin - [**2197-11-21**] 12:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2197-11-22**] 02:30 PM
   Piperacillin - [**2197-11-23**] 03:00 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2197-11-22**] 09:16 AM
   Vecuronium - [**2197-11-22**] 11:30 AM
   Propofol - [**2197-11-22**] 12:05 PM
   Heparin Sodium (Prophylaxis) - [**2197-11-23**] 12:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-11-23**] 05:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.1
C (98.8
   HR: 67 (49 - 68) bpm
   BP: 126/54(81) {96/37(57) - 141/100(110)} mmHg
   RR: 21 (0 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 60 kg (admission): 49.5 kg
   Height: 60 Inch
    CO/CI (Fick): (6.2 L/min) / (4.3 L/min/m2)
   Mixed Venous O2% Sat: 73 - 73
   Total In:
                                                                    860 mL
                                                                    151 mL
   PO:
   TF:
                                                                     10 mL
   IVF:
                                                                    670 mL
                                                                    151 mL
   Blood products:
   Total out:
                                                                    970 mL
                                                                    800 mL
   Urine:
                                                                    970 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -110 mL
                                                                   -649 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 28 cmH2O
   Plateau: 23 cmH2O
   Compliance: 27.4 cmH2O/mL
   SpO2: 100%
   ABG: 7.45/38/128/28/3
   Ve: 7.3 L/min
   PaO2 / FiO2: 320
   Physical Examination
   General Appearance: Thin with temporal wasting.  Intubated, alert.  Not
   following commands.
   Eyes / Conjunctiva: PERRL.
   Head, Ears, Nose, Throat: Normocephalic, chewing on Endotracheal tube,
   OG tube
   Cardiovascular: PMI Normal,nl S1 and S2, with no MRG.
   Peripheral Vascular: warm extremities
   Respiratory / Chest: (Expansion: Symmetric) crackles throughout .
   Coarse breath sounds bilaterally
   Abdominal: Soft, Non-tender, Non-distended, Bowel sounds present.  No
   rebound or guarding.
   Ext: Muscle wasting, cool, but 2+ pulses.  No clubbing/cyanosis/edema
   Neurologic: Responds to: voice, Movement: Non -purposeful, no longer
   sedated
   Labs / Radiology
   346 K/uL
   8.7 g/dL
   85 mg/dL
   1.0 mg/dL
   28 mEq/L
   4.0 mEq/L
   14 mg/dL
   104 mEq/L
   139 mEq/L
   25.6 %
   7.5 K/uL
        [image002.jpg]
                            [**2197-11-20**]  03:12 AM
                            [**2197-11-21**]  04:04 AM
                            [**2197-11-21**]  04:43 AM
                            [**2197-11-21**]  06:06 AM
                            [**2197-11-21**]  09:12 AM
                            [**2197-11-22**]  03:13 AM
                            [**2197-11-22**]  07:49 AM
                            [**2197-11-22**]  04:46 PM
                            [**2197-11-22**]  05:09 PM
                            [**2197-11-23**]  03:16 AM
   WBC
   5.7
   9.9
   7.1
   7.0
   7.5
   Hct
   26.0
   31.3
   25.9
   25.7
   26.3
   25.6
   Plt
   [**Telephone/Fax (3) 6565**]60
   346
   Cr
   0.8
   0.8
   1.0
   1.1
   1.0
   TCO2
   32
   32
   30
   31
   27
   Glucose
   144
   142
   94
   81
   85
   Other labs: PT / PTT / INR:14.0/37.7/1.2, CK / CKMB /
   Troponin-T:78/7/0.04, ALT / AST:31/47, Alk Phos / T Bili:44/1.6,
   Differential-Neuts:85.9 %, Lymph:9.7 %, Mono:4.1 %, Eos:0.3 %,
   Fibrinogen:397 mg/dL, Lactic Acid:1.5 mmol/L, Albumin:2.2 g/dL, LDH:256
   IU/L, Ca++:8.3 mg/dL, Mg++:2.3 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   A/P: 89 yo with PMH of alzheimer's dementia, hypernatremia, UTI
   presents with AMS, sepsis physiology, UTI, and impressive
   hypernatremia, initially intubated, extubated and re-intubated X 2 for
   worsening acidosis, hypercarbia, ? flash pulmonary edema. Now
   hypotensive.
   # Hypotension: unclear etiology.  Lactate and mixed venous do not
   suggest infection.  Pt did not respond to fluid boluses and CVPs do not
   point to hypovolemia.  No history of cardiac failure, however no echos
   here so cardiogenic shock is possible.  [**Month (only) 60**] also be unable to mount HR
   response with conduction disorder.  EP consulted twice and do not want
   to intervene given her hx of sepsis.  Adrenal insufficiency also a
   possibility.  Autonomic instability possible after everything else
   ruled out.
   - obtain echo today for ?cardiogenic shock
   - wean dopamine as tolerated
   -AM cortisol to assess adrenal insufficiency
   - consider Midodrine if no answers obtained
   # Respiratory failure: hypoxia and hypercarbia.  Low NIF and CO2
   retention after latest extubation suggest neuromuscular weakness.
   However, persistent A-a gradient on latest ABG suggests intrinsic [**Known lastname **]
   disease.  Patient has pneumonia, possible obstructive disease given
   respiratory acidosis with metabolic compensation at admission. No Hx of
   COPD given but may be undiagnosed thus far.  Now pt. may have VAP as
   sputum is growing GNRs, awaiting speciation.  Difficulty of weaning
   from the vent likely a mix of decreased of all of these factors.  Pt
   has now failed re-intubation twice.
   - Cont. gent & zosyn for presumed VAP until speciation available.
   - Cont. Vanco for MRSA started on evening of [**11-10**].
   -Trach & PEG today, restart tube feeds in 24 hours
   -Continue on PSV as tolerated.
   .
   # Sepsis: Patient initially presented with sepsis - fever, hypotension,
   hypoxia.  Urine grew out pan sensitive proteus mirabilis, treated with
   cipro.  Sputum growing MRSA.  Vanco started pm [**11-10**].  Sputum grew
   GNRs, likely VAP.  Cipro and Unasyn d/c
d, begun on gentamicin and
   Zosyn for VAP.
   -Continue Vancomycin for MRSA
   - Gentamicin and Zosyn  started as described above
   - Surveillance BCx
   .
   # AMS: likely [**2-4**] toxic/metabolic, though other etiologies could
   include stroke, and underlying dementia.  During the interval time
   between extubation and re-intubation, her mental status appeared to the
   family to be near baseline.
   - Will speak to family in order to outline pt
s baseline mental status
   once patient has tracheostomy and can better communicate.
   - Csider imaging if no improvement toward baseline.
   .
   # Bradycardia: not new
 old records show ekg w/nsr at 65 w/1st degree
   AV block 3 years ago.
   - Initially EP commented that her rhythm could be a variation of normal
   or tied to her underlying illness and recommended treating her sepsis
   and re-evaluating once she has recovered or becomes unstable.
   -EP consult today to consider pacer placement to aid with hypotension.
   -Tx hypotension fluids, then with dopamine or atropine
   # Paroxysmal afib
   - Not an anticoagulation candidate
   # Alzheimer's: cont home meds
   .
   # PPx: H2 blocker, sc heparin, bowel regimen
   .
   # FEN: NPO for 24 hours, check lytes in AM
   # Access: PICC line put in [**2198-11-21**].
   # Code: full code.  Discussed with patient
s son [**Name (NI) 6287**] who wants
everything done
 including reintubation if patient fails extubation.
   .
   # Dispo: ICU level care, begin screening for rehab placement.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2197-11-22**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2197-11-23 09:37:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Trach/PEG and PICC placed yesterday
   Dopamine weaned to off
   ECHO with minimal changes seen to explain persistent bradycardia
   24 Hour Events:
 PICC LINE - START [**2197-11-22**] 01:00 PM
 ARTERIAL LINE - START [**2197-11-22**] 01:48 PM
 ARTERIAL LINE - STOP [**2197-11-22**] 01:49 PM
 MULTI LUMEN - STOP [**2197-11-22**] 08:04 PM
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gentamicin - [**2197-11-21**] 08:41 AM
   Vancomycin - [**2197-11-21**] 12:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2197-11-22**] 02:30 PM
   Piperacillin - [**2197-11-23**] 08:15 AM
   Infusions:
   Other ICU medications:
   Vecuronium - [**2197-11-22**] 11:30 AM
   Propofol - [**2197-11-22**] 12:05 PM
   Ranitidine (Prophylaxis) - [**2197-11-23**] 08:21 AM
   Heparin Sodium (Prophylaxis) - [**2197-11-23**] 08:21 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-11-23**] 09:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.9
C (98.4
   HR: 63 (50 - 68) bpm
   BP: 143/57(89) {96/37(57) - 144/60(89)} mmHg
   RR: 27 (0 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 60 kg (admission): 49.5 kg
   Height: 60 Inch
             Total In:
                                                                  1,508 mL
                                                                    523 mL
   PO:
             TF:
                                                                     10 mL
   IVF:
                                                                  1,318 mL
                                                                    413 mL
   Blood products:
   Total out:
                                                                    970 mL
                                                                    865 mL
   Urine:
                                                                    970 mL
                                                                    865 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    538 mL
                                                                   -342 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 18
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 26 cmH2O
   Plateau: 22 cmH2O
   Compliance: 32 cmH2O/mL
   SpO2: 100%
   ABG: 7.45/38/128/28/3
   Ve: 7.8 L/min
   PaO2 / FiO2: 320
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: )
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.7 g/dL
   346 K/uL
   85 mg/dL
   1.0 mg/dL
   28 mEq/L
   4.0 mEq/L
   14 mg/dL
   104 mEq/L
   139 mEq/L
   25.6 %
   7.5 K/uL
        [image002.jpg]
                            [**2197-11-20**]  03:12 AM
                            [**2197-11-21**]  04:04 AM
                            [**2197-11-21**]  04:43 AM
                            [**2197-11-21**]  06:06 AM
                            [**2197-11-21**]  09:12 AM
                            [**2197-11-22**]  03:13 AM
                            [**2197-11-22**]  07:49 AM
                            [**2197-11-22**]  04:46 PM
                            [**2197-11-22**]  05:09 PM
                            [**2197-11-23**]  03:16 AM
   WBC
   5.7
   9.9
   7.1
   7.0
   7.5
   Hct
   26.0
   31.3
   25.9
   25.7
   26.3
   25.6
   Plt
   [**Telephone/Fax (3) 6565**]60
   346
   Cr
   0.8
   0.8
   1.0
   1.1
   1.0
   TCO2
   32
   32
   30
   31
   27
   Glucose
   144
   142
   94
   81
   85
   Other labs: PT / PTT / INR:13.3/38.0/1.1, CK / CKMB /
   Troponin-T:78/7/0.04, ALT / AST:31/47, Alk Phos / T Bili:44/1.6,
   Differential-Neuts:85.9 %, Lymph:9.7 %, Mono:4.1 %, Eos:0.3 %,
   Fibrinogen:397 mg/dL, Lactic Acid:1.5 mmol/L, Albumin:2.2 g/dL, LDH:256
   IU/L, Ca++:8.3 mg/dL, Mg++:2.3 mg/dL, PO4:1.9 mg/dL
   Fluid analysis / Other labs: Cortisol--Pending
   Assessment and Plan
   89 yo female admitted with sepsis and now with persistent ventilatory
   failure in the setting of significant medical illness, weakness and
   obstructive [**Known lastname **] disease.
   1)Respiratory Failure-patient now with trach in place which will lead
   to significant decreased in dead space ventilation and hopefully allow
   a more effective wean of ventilatory support
   -PSV today
   -goal is to trach mask trial today x 2 hours if possible
   2)Sepsis-Encouraging wean off of pressors and afebrile status.  ECHO
   reassuring
   -Zosyn/Gent for likely VAP
   -Pressors weaned to off last night
   -Will continue ABX x 2 week course via PICC line
   -AM cortisol pending
 IMPAIRED SKIN INTEGRITY
 EDEMA, PERIPHERAL
 DIARRHEA
 HYPOKALEMIA (LOW POTASSIUM, HYPOPOTASSEMIA)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   ICU Care
   Nutrition: PEG to gravity, move to tube feeds ASAp with guidance from
   IP team
   Glycemic Control:
   Lines:
   PICC Line - [**2197-11-22**] 01:00 PM
   Arterial Line - [**2197-11-22**] 01:48 PM
will D/C a-line today
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
will begin screening for rehab
   Total time spent: 35 minutes

2197-11-24 05:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Sputum growing Stenotrophomonas, started IV Bactrim
   Morning cortisol normal
   Restarted tube feeds
   Got 500 cc bolus for hypotension during the day
   Accepted by [**Hospital1 766**] at [**Last Name (LF) 1817**], [**First Name3 (LF) 178**] go tomorrow am.
   Allergies:
   No Known Drug Allergies
   Antibiotics:
   Gentamicin
   Vancomycin
   Piperacillin
   Piperacillin/Tazobactam (Zosyn)
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2197-11-23**] 08:21 AM
   Heparin Sodium (Prophylaxis) - [**2197-11-24**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Unable to assess
   Flowsheet Data as of  [**2197-11-24**] 05:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.9
C (98.4
   HR: 55 (49 - 68) bpm
   BP: 130/49(75) {99/41(60) - 163/68(101)} mmHg
   RR: 16 (3 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 60 kg (admission): 49.5 kg
   Height: 60 Inch
             Total In:
                                                                  1,862 mL
                                                                    152 mL
   PO:
             TF:
                                                                     88 mL
                                                                     94 mL
   IVF:
                                                                  1,559 mL
                                                                     58 mL
   Blood products:
   Total out:
                                                                  1,603 mL
                                                                    125 mL
   Urine:
                                                                  1,323 mL
                                                                    125 mL
   NG:
                                                                     80 mL
   Stool:
   Drains:
   Balance:
                                                                    259 mL
                                                                     28 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 304 (261 - 343) mL
   PS : 15 cmH2O
   RR (Set): 18
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 171
   PIP: 21 cmH2O
   Plateau: 22 cmH2O
   Compliance: 32 cmH2O/mL
   SpO2: 100%
   ABG: ///28/
   Ve: 7.3 L/min
   Physical Examination
   General Appearance: Thin. Alert. Mouthing words.  Trach in place.
   Eyes / Conjunctiva: PERRL.
   Head, Ears, Nose, Throat: Normocephalic, constant chewing motion. No
   dentition
   Neck: rash around prior IJ site is resolving.
   Cardiovascular: PMI Normal,nl S1 and S2, with no MRG.
   Peripheral Vascular: warm extremities
   Respiratory / Chest: Coarse breath sounds bilaterally
   Abdominal: Soft, Non-tender, Non-distended, Bowel sounds present.  No
   rebound or guarding. PEG tube site c/d/i
   Ext: Muscle wasting, cool, but 2+ pulses.  No clubbing/cyanosis/edema
   Neurologic: Responds to: voice, Movement: Non -purposeful, no longer
   sedated
    Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   354 K/uL
   8.5 g/dL
   99 mg/dL
   1.0 mg/dL
   28 mEq/L
   4.3 mEq/L
   13 mg/dL
   104 mEq/L
   139 mEq/L
   25.3 %
   7.8 K/uL
        [image002.jpg]
                            [**2197-11-21**]  04:04 AM
                            [**2197-11-21**]  04:43 AM
                            [**2197-11-21**]  06:06 AM
                            [**2197-11-21**]  09:12 AM
                            [**2197-11-22**]  03:13 AM
                            [**2197-11-22**]  07:49 AM
                            [**2197-11-22**]  04:46 PM
                            [**2197-11-22**]  05:09 PM
                            [**2197-11-23**]  03:16 AM
                            [**2197-11-24**]  03:26 AM
   WBC
   9.9
   7.1
   7.0
   7.5
   7.8
   Hct
   31.3
   25.9
   25.7
   26.3
   25.6
   25.3
   Plt
   [**Telephone/Fax (3) 6591**]46
   354
   Cr
   0.8
   1.0
   1.1
   1.0
   1.0
   TCO2
   32
   32
   30
   31
   27
   Glucose
   142
   94
   81
   85
   99
   Other labs:
   PT / PTT / INR:13.7/35.3/1.2
   Ca++:8.2 mg/dL, Mg++:2.2 mg/dL, PO4:3.6 mg/dL
   Sputum [**11-18**]: stenotrophomonas, sensitive to bactrim
   BCX: [**11-12**] negative; [**11-18**], [**11-19**], [**11-20**], [**11-21**] pending
   IJ tip culture ([**11-22**]) preliminarily negative
   Assessment and Plan
   A/P: 89 yo with PMH of alzheimer's dementia, hypernatremia, UTI
   presents with AMS, sepsis physiology, UTI, and impressive
   hypernatremia, initially intubated, extubated and re-intubated X 2 for
   worsening acidosis, hypercarbia, ? flash pulmonary edema. With
   intermittent hypotension now resolved, and now s/p trach and PEG
   placement.
   #1 Hypotension: Resolved currently.  Dopamine drip weaned off.  ECHO
   relatively unremarkable given patient
s age and does not explain
   hypotension or bradycardia.  Autonomic instability is possible.  AM
   cortisol normal.  A-line pulled.
   #2 Respiratory failure: hypoxia and hypercarbia.  Low NIF and CO2
   retention after latest extubation suggest neuromuscular weakness.
   However, persistent A-a gradient on latest ABG suggests intrinsic [**Known lastname **]
   disease.  Patient has pneumonia, possible obstructive disease given
   respiratory acidosis with metabolic compensation at admission. No Hx of
   COPD given but may be undiagnosed thus far.  Sputum growing
   stenotrophomonas, sensitive to Bactrim.   Difficulty of weaning from
   the vent likely a mix of decreased of all of these factors.  Trach &
   peg placed yesterday.
   - IV bactrim 5mg/kg (250mg Q8h) x 8 days (today is day [**1-10**]
 last dose
   on [**12-1**])
   - d/c gent & zosyn for presumed VAP as stenotrophomonas sensitive to
   bactrim
   - Finish Vanco for MRSA in sputum started on evening of [**11-10**] (has had
   15 days of vancomycin total).
   - Continue to wean from vent as tolerated.
   .
   #3 Sepsis: Patient initially presented with sepsis - fever,
   hypotension, hypoxia.  Urine grew out pan sensitive proteus mirabilis,
   treated with cipro.  Sputum growing MRSA.  Vanco started pm [**11-10**].
   Sputum grew GNRs, likely VAP.  Cipro and Unasyn d/c
d, begun on
   gentamicin and Zosyn for VAP.
   -Continue Vancomycin for MRSA
   - Gentamicin and Zosyn  started as described above
   - Surveillance BCx
   .
   #4 AMS: likely [**2-4**] toxic/metabolic, though other etiologies could
   include stroke, and underlying dementia.  During the interval time
   between extubation and re-intubation, her mental status appeared to the
   family to be near baseline.  AMS may also be related to prolonged ICU
   stay.
   - Transition patient out of ICU
   - Consider imaging if MS worsens.
   .
   # Bradycardia: not new
 old records show ekg w/nsr at 65 w/1st degree
   AV block 3 years ago.
   - Initially EP commented that her rhythm could be a variation of normal
   or tied to her underlying illness and recommended treating her sepsis
   and re-evaluating once she has recovered or becomes unstable.
   -EP re-evaluation
 no indication for pacer at this time.
   -Tx hypotension fluids, then with dopamine or atropine
   # Paroxysmal afib
   - Not an anticoagulation candidate as per admission records
   # Alzheimer's: cont home meds
   .
   # PPx: H2 blocker, sc heparin, bowel regimen
   .
   # FEN: tolerating TF through PEG w/out residuals as per nurse.  Replete
   lytes prn.
   # Access: PICC line put in [**2198-11-22**].  RIJ removed.
   # Code: full code.  Discussed with patient
s son [**Name (NI) 6287**] who wants
everything done
 including reintubation if patient fails extubation.
   .
   # Dispo: appropriate for [**Hospital 6593**] rehab. Accepted by [**Hospital1 5450**] at [**Last Name (LF) 1817**], [**First Name3 (LF) 178**] go tomorrow am.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2197-11-23**] 03:10 PM 20 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2197-11-9**] 05:10 PM
   PICC Line - [**2197-11-22**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2197-11-24 11:30:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   PSV via trach
   Stenotrophomonas Identified on sputum culture
   PICC placed
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2197-11-23**] 11:32 AM
   Piperacillin - [**2197-11-23**] 02:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2197-11-24**] 08:30 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2197-11-24**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-11-24**] 11:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37
C (98.6
   HR: 56 (49 - 68) bpm
   BP: 114/47(68) {99/41(60) - 163/68(101)} mmHg
   RR: 13 (3 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 72 kg (admission): 49.5 kg
   Height: 60 Inch
             Total In:
                                                                  1,862 mL
                                                                    593 mL
   PO:
             TF:
                                                                     88 mL
                                                                    219 mL
   IVF:
                                                                  1,559 mL
                                                                    213 mL
   Blood products:
   Total out:
                                                                  1,603 mL
                                                                    298 mL
   Urine:
                                                                  1,323 mL
                                                                    298 mL
   NG:
                                                                     80 mL
   Stool:
   Drains:
   Balance:
                                                                    259 mL
                                                                    295 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 247 (247 - 323) mL
   PS : 15 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 171
   PIP: 21 cmH2O
   SpO2: 99%
   ABG: ///28/
   Ve: 6.3 L/min
   Physical Examination
   Head, Ears, Nose, Throat: Trach Tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.5 g/dL
   354 K/uL
   99 mg/dL
   1.0 mg/dL
   28 mEq/L
   4.3 mEq/L
   13 mg/dL
   104 mEq/L
   139 mEq/L
   25.3 %
   7.8 K/uL
        [image002.jpg]
                            [**2197-11-21**]  04:04 AM
                            [**2197-11-21**]  04:43 AM
                            [**2197-11-21**]  06:06 AM
                            [**2197-11-21**]  09:12 AM
                            [**2197-11-22**]  03:13 AM
                            [**2197-11-22**]  07:49 AM
                            [**2197-11-22**]  04:46 PM
                            [**2197-11-22**]  05:09 PM
                            [**2197-11-23**]  03:16 AM
                            [**2197-11-24**]  03:26 AM
   WBC
   9.9
   7.1
   7.0
   7.5
   7.8
   Hct
   31.3
   25.9
   25.7
   26.3
   25.6
   25.3
   Plt
   [**Telephone/Fax (3) 6591**]46
   354
   Cr
   0.8
   1.0
   1.1
   1.0
   1.0
   TCO2
   32
   32
   30
   31
   27
   Glucose
   142
   94
   81
   85
   99
   Other labs: PT / PTT / INR:13.7/35.3/1.2, CK / CKMB /
   Troponin-T:78/7/0.04, ALT / AST:31/47, Alk Phos / T Bili:44/1.6,
   Differential-Neuts:85.9 %, Lymph:9.7 %, Mono:4.1 %, Eos:0.3 %,
   Fibrinogen:397 mg/dL, Lactic Acid:1.5 mmol/L, Albumin:2.2 g/dL, LDH:256
   IU/L, Ca++:8.2 mg/dL, Mg++:2.2 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   89 yo female initially admitted with sepsis and now with prolonged
   course of respiratory failure and weaning of ventilatory support over
   an extended period of time to be facilitated by tracheostomy.  She has
   had encouraging stability off of pressors and likely represents
   resolution of sepsis.
   1)respiratory Failure-
   -Move to wean PSv as tolerated
   -Will take increased efforts at mobility and PT to work to restore lost
   motor strenth of respiratory system which in the setting of chronic
   obstructive [**Known lastname **] disease is primary barrier to liberation from
   mecahnical ventilation
   -Trach mask trial if possible.
   -Will add bactrim for new culture results
   2)Sepsis/Hypotension-
   -Resolved
   -Pressors weaned to off for >24 hours
   -Likley near euvolemic in regards to volume status
   3)Altered Mental Status-
   -Continue to minimize any sedating medications
   -Will continue with mobilitzation and work to encourage active
   parcitipation in care.
 ALTERATION IN NUTRITION
 IMPAIRED SKIN INTEGRITY
 EDEMA, PERIPHERAL
 DIARRHEA
 HYPOKALEMIA (LOW POTASSIUM, HYPOPOTASSEMIA)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2197-11-24**] 08:37 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2197-11-9**] 05:10 PM
   PICC Line - [**2197-11-22**] 01:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility when able
   Total time spent: 35 minutes

2197-11-25 05:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
     * a-line d/c
     * has bed at [**Hospital1 697**], can go tomorrow, son aware
     * d/c all abx except bactrim for stenotrophomonas
   Allergies:
   No Known Drug Allergies
   Antibiotics:
   Bactrim (SMX/TMP)
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2197-11-24**] 03:52 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-11-25**] 05:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.4
C (97.6
   HR: 69 (53 - 69) bpm
   BP: 131/54(75) {100/36(52) - 145/90(96)} mmHg
   RR: 25 (13 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72 kg (admission): 49.5 kg
   Height: 60 Inch
             Total In:
                                                                  2,015 mL
                                                                    452 mL
   PO:
             TF:
                                                                    600 mL
                                                                    202 mL
   IVF:
                                                                  1,055 mL
                                                                    250 mL
   Blood products:
   Total out:
                                                                  1,063 mL
                                                                    290 mL
   Urine:
                                                                    563 mL
                                                                    290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    952 mL
                                                                    162 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 338 (247 - 338) mL
   PS : 15 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 183
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: ///28/
   Ve: 7.5 L/min
   Physical Examination
   General Appearance: Thin. Alert. Mouthing words.  Trach in place.
   Eyes / Conjunctiva: PERRL.
   Head, Ears, Nose, Throat: Normocephalic, constant chewing motion. No
   dentition
   Neck: rash around prior IJ site is resolving.
   Cardiovascular: PMI Normal,nl S1 and S2, with no MRG.
   Peripheral Vascular: warm extremities
   Respiratory / Chest: clear to auscultation bilaterally
   Abdominal: Soft, Non-tender, Non-distended, Bowel sounds present.  No
   rebound or guarding. PEG tube site c/d/i
   Ext: Muscle wasting, cool, but 2+ pulses.  No clubbing/cyanosis/edema
   Neurologic: Responds to: voice, Movement: Non -purposeful, no longer
   sedated
    Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   290 K/uL
   8.9 g/dL
   137 mg/dL
   1.1 mg/dL
   28 mEq/L
   3.9 mEq/L
   13 mg/dL
   103 mEq/L
   138 mEq/L
   27.5 %
   6.5 K/uL
        [image002.jpg]
                            [**2197-11-21**]  04:43 AM
                            [**2197-11-21**]  06:06 AM
                            [**2197-11-21**]  09:12 AM
                            [**2197-11-22**]  03:13 AM
                            [**2197-11-22**]  07:49 AM
                            [**2197-11-22**]  04:46 PM
                            [**2197-11-22**]  05:09 PM
                            [**2197-11-23**]  03:16 AM
                            [**2197-11-24**]  03:26 AM
                            [**2197-11-25**]  04:10 AM
   WBC
   7.1
   7.0
   7.5
   7.8
   6.5
   Hct
   25.9
   25.7
   26.3
   25.6
   25.3
   27.5
   Plt
   353
   360
   346
   354
   290
   Cr
   1.0
   1.1
   1.0
   1.0
   1.1
   TCO2
   32
   32
   30
   31
   27
   Glucose
   94
   81
   85
   99
   137
   Other labs: PT / PTT / INR:13.7/35.3/1.2, CK / CKMB /
   Troponin-T:78/7/0.04, ALT / AST:31/47, Alk Phos / T Bili:44/1.6,
   Differential-Neuts:85.9 %, Lymph:9.7 %, Mono:4.1 %, Eos:0.3 %,
   Fibrinogen:397 mg/dL, Lactic Acid:1.5 mmol/L, Albumin:2.2 g/dL, LDH:256
   IU/L, Ca++:8.2 mg/dL, Mg++:2.2 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   A/P: 89 yo with PMH of alzheimer's dementia, hypernatremia, UTI
   presents with AMS, sepsis physiology, UTI, and impressive
   hypernatremia, initially intubated, extubated and re-intubated X 2 for
   worsening acidosis, hypercarbia, ? flash pulmonary edema. With
   intermittent hypotension now resolved, and now s/p trach and PEG
   placement.
   #1 Hypotension: Resolved.  Dopamine drip weaned off.  ECHO relatively
   unremarkable given patient
s age and does not explain hypotension or
   bradycardia.  Autonomic instability is possible.  AM cortisol normal.
   A-line pulled.
   #2 Respiratory failure: hypoxia and hypercarbia.  Low NIF and CO2
   retention after latest extubation suggest neuromuscular weakness.
   However, persistent A-a gradient on latest ABG suggests intrinsic [**Known lastname **]
   disease.  Patient has pneumonia, possible obstructive disease given
   respiratory acidosis with metabolic compensation at admission. No Hx of
   COPD given but may be undiagnosed thus far.  Sputum growing
   stenotrophomonas, sensitive to Bactrim.   Difficulty of weaning from
   the vent likely a mix of decreased of all of these factors.  Trach &
   peg placed yesterday.
   - IV bactrim 5mg/kg (250mg Q8h) x 8 days (today is day [**2-10**]
 last dose
   on [**12-1**])
   - d/c gent & zosyn for presumed VAP as stenotrophomonas sensitive to
   bactrim
   - Stop Vanco for MRSA in sputum started on evening of [**11-10**] (has had 15
   days of vancomycin total).
   - Continue to wean from vent as tolerated.
   .
   #3 Sepsis: Patient initially presented with sepsis - fever,
   hypotension, hypoxia.  Urine grew out pan sensitive proteus mirabilis,
   treated with cipro.  Sputum growing MRSA.  Vanco started pm [**11-10**].
   Sputum grew GNRs, likely VAP.  Cipro and Unasyn d/c
d, begun on
   gentamicin and Zosyn for VAP.
   - d/c vanco
   - Gentamicin and Zosyn d/c as described above
   .
   #4 AMS: likely [**2-4**] toxic/metabolic, though other etiologies could
   include stroke, and underlying dementia.  During the interval time
   between extubation and re-intubation, her mental status appeared to the
   family to be near baseline.  AMS may also be related to prolonged ICU
   stay.
   - Transition patient out of ICU
   - Consider imaging if MS worsens.
   .
   # Bradycardia: not new
 old records show ekg w/nsr at 65 w/1st degree
   AV block 3 years ago.
   - Initially EP commented that her rhythm could be a variation of normal
   or tied to her underlying illness and recommended treating her sepsis
   and re-evaluating once she has recovered or becomes unstable.
   -EP re-evaluation
 no indication for pacer at this time.
   -Tx hypotension fluids, then with dopamine or atropine
   # Paroxysmal afib
   - Not an anticoagulation candidate as per admission records? To be
   further evaluated at extended
   # Alzheimer's: cont home meds
   .
   # PPx: H2 blocker, sc heparin, bowel regimen
   .
   # FEN: tolerating TF through PEG w/out residuals as per nurse.  Replete
   lytes prn.
   # Access: PICC line put in [**2198-11-22**].  RIJ removed.
   # Code: full code.  Discussed with patient
s son [**Name (NI) 6287**] who wants
everything done
 including reintubation if patient fails extubation.
   .
   # Dispo: Appropriate for [**Hospital 6593**] rehab. Accepted by [**Hospital1 5450**] at [**Last Name (LF) 1817**], [**First Name3 (LF) 178**] go today.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2197-11-25**] 12:09 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2197-11-22**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Critical Care
   Present for key portions of history and exam. Agree with Dr.
   [**Last Name (STitle) 6606**]
s plan as above.  Ms. [**Known lastname 904**] remains anasarcic and we will try
   again to diurese. Plan is for rehab placement so would aim for very
   slow diuresis.
   Time spent: 35
   ------ Protected Section Addendum Entered By:[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 115**] [**Last Name (NamePattern1) 116**], MD
   on:[**2197-11-25**] 13:54 ------

2197-11-26 05:22:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - lost rehab bed but will be going today
   - bactrim x 2 weeks for Steno PNA
   - need to e-mail her PCP?
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2197-11-23**] 02:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2197-11-24**] 08:30 AM
   Gentamicin - [**2197-11-24**] 10:00 AM
   Vancomycin - [**2197-11-24**] 12:00 PM
   Bactrim (SMX/TMP) - [**2197-11-25**] 10:04 PM
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2197-11-25**] 09:00 AM
   Heparin Sodium (Prophylaxis) - [**2197-11-25**] 04:03 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-11-26**] 05:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.7
C (98.1
   HR: 62 (52 - 76) bpm
   BP: 133/57(74) {88/29(43) - 140/72(92)} mmHg
   RR: 22 (13 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72 kg (admission): 49.5 kg
   Height: 60 Inch
                  Total In:
                                                                  2,248 mL
                                                                    240 mL
   PO:
                  TF:
                                                                    888 mL
                                                                    240 mL
   IVF:
                                                                  1,000 mL
   Blood products:
   Total out:
                                                                  1,115 mL
                                                                    220 mL
   Urine:
                                                                  1,115 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,133 mL
                                                                     20 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 367 (301 - 385) mL
   PS : 15 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: ////
   Ve: 8.2 L/min
   Physical Examination
   General Appearance: Thin. Alert. Mouthing words.  Trach in place.
   Eyes / Conjunctiva: PERRL.
   Head, Ears, Nose, Throat: Normocephalic, constant chewing motion. No
   dentition
   Neck: rash around prior IJ site is resolving.
   Cardiovascular: PMI Normal,nl S1 and S2, with no MRG.
   Peripheral Vascular: warm extremities
   Respiratory / Chest: clear to auscultation bilaterally
   Abdominal: Soft, Non-tender, Non-distended, Bowel sounds present.  No
   rebound or guarding. PEG tube site c/d/i
   Ext: Muscle wasting, cool, but 2+ pulses.  No clubbing/cyanosis/edema
   Neurologic: Responds to: voice, Movement: Non -purposeful, no longer
   sedated
    Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   330 K/uL
   8.2 g/dL
   137 mg/dL
   1.1 mg/dL
   28 mEq/L
   3.9 mEq/L
   13 mg/dL
   103 mEq/L
   138 mEq/L
   24.7 %
   7.1 K/uL
        [image002.jpg]
                            [**2197-11-21**]  06:06 AM
                            [**2197-11-21**]  09:12 AM
                            [**2197-11-22**]  03:13 AM
                            [**2197-11-22**]  07:49 AM
                            [**2197-11-22**]  04:46 PM
                            [**2197-11-22**]  05:09 PM
                            [**2197-11-23**]  03:16 AM
                            [**2197-11-24**]  03:26 AM
                            [**2197-11-25**]  04:10 AM
                            [**2197-11-26**]  04:25 AM
   WBC
   7.1
   7.0
   7.5
   7.8
   6.5
   7.1
   Hct
   25.9
   25.7
   26.3
   25.6
   25.3
   27.5
   24.7
   Plt
   353
   360
   346
   354
   290
   330
   Cr
   1.0
   1.1
   1.0
   1.0
   1.1
   TCO2
   32
   30
   31
   27
   Glucose
   94
   81
   85
   99
   137
   Other labs: PT / PTT / INR:13.7/35.3/1.2, CK / CKMB /
   Troponin-T:78/7/0.04, ALT / AST:31/47, Alk Phos / T Bili:44/1.6,
   Differential-Neuts:85.9 %, Lymph:9.7 %, Mono:4.1 %, Eos:0.3 %,
   Fibrinogen:397 mg/dL, Lactic Acid:1.5 mmol/L, Albumin:2.2 g/dL, LDH:256
   IU/L, Ca++:8.2 mg/dL, Mg++:2.2 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   A/P: 89 yo with PMH of alzheimer's dementia, hypernatremia, UTI
   presents with AMS, sepsis physiology, UTI, and impressive
   hypernatremia, initially intubated, extubated and re-intubated X 2 for
   worsening acidosis, hypercarbia, ? flash pulmonary edema. With
   intermittent hypotension now resolved, and now s/p trach and PEG
   placement.
   #1 Hypotension: Resolved.  Dopamine drip weaned off.  ECHO relatively
   unremarkable given patient
s age and does not explain hypotension or
   bradycardia.  Autonomic instability is possible.  AM cortisol normal.
   A-line pulled.
   #2 Respiratory failure: hypoxia and hypercarbia.  Low NIF and CO2
   retention after latest extubation suggest neuromuscular weakness.
   However, persistent A-a gradient on latest ABG suggests intrinsic [**Known lastname **]
   disease.  Patient has pneumonia, possible obstructive disease given
   respiratory acidosis with metabolic compensation at admission. No Hx of
   COPD given but may be undiagnosed thus far.  Sputum growing
   stenotrophomonas, sensitive to Bactrim.   Difficulty of weaning from
   the vent likely a mix of decreased of all of these factors.  Trach &
   peg placed yesterday.
   - IV bactrim 5mg/kg (250mg Q8h) x 8 days (today is day [**2-10**]
 last dose
   on [**12-1**])
   - d/c gent & zosyn for presumed VAP as stenotrophomonas sensitive to
   bactrim
   - Stop Vanco for MRSA in sputum started on evening of [**11-10**] (has had 15
   days of vancomycin total).
   - Continue to wean from vent as tolerated.
   .
   #3 Sepsis: Patient initially presented with sepsis - fever,
   hypotension, hypoxia.  Urine grew out pan sensitive proteus mirabilis,
   treated with cipro.  Sputum growing MRSA.  Vanco started pm [**11-10**].
   Sputum grew GNRs, likely VAP.  Cipro and Unasyn d/c
d, begun on
   gentamicin and Zosyn for VAP.
   - d/c vanco
   - Gentamicin and Zosyn d/c as described above
   .
   #4 AMS: likely [**2-4**] toxic/metabolic, though other etiologies could
   include stroke, and underlying dementia.  During the interval time
   between extubation and re-intubation, her mental status appeared to the
   family to be near baseline.  AMS may also be related to prolonged ICU
   stay.
   - Transition patient out of ICU
   - Consider imaging if MS worsens.
   .
   # Bradycardia: not new
 old records show ekg w/nsr at 65 w/1st degree
   AV block 3 years ago.
   - Initially EP commented that her rhythm could be a variation of normal
   or tied to her underlying illness and recommended treating her sepsis
   and re-evaluating once she has recovered or becomes unstable.
   -EP re-evaluation
 no indication for pacer at this time.
   -Tx hypotension fluids, then with dopamine or atropine
   # Paroxysmal afib
   - Not an anticoagulation candidate as per admission records? To be
   further evaluated at extended
   # Alzheimer's: cont home meds
   .
   # PPx: H2 blocker, sc heparin, bowel regimen
   .
   # FEN: tolerating TF through PEG w/out residuals as per nurse.  Replete
   lytes prn.
   # Access: PICC line put in [**2198-11-22**].  RIJ removed.
   # Code: full code.  Discussed with patient
s son [**Name (NI) 6287**] who wants
everything done
 including reintubation if patient fails extubation.
   .
   # Dispo: Appropriate for [**Hospital 6593**] rehab. Accepted by [**Hospital1 5450**] at [**Last Name (LF) 1817**], [**First Name3 (LF) 178**] go today.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2197-11-26**] 01:36 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2197-11-22**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   Critical Care
   Present for key portion of history and exam. Agree with plan as above.
   Comfortable on ventilator. She will need massive diuresis and
   substantial rehab if she is to be weaned from vent. Her preload
   dependence has limited I&O goal but will try gentle diuresis.
   Time spent: 30 min